2145-10-31 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2145-10-30**] 01:55 PM
 MULTI LUMEN - START [**2145-10-30**] 01:56 PM
 PARACENTESIS - At [**2145-10-30**] 11:03 PM
   - Had Dx para: 35 WBC's, 12 Poly, 3 Lymph, 80 Monos, 2 Mesoth, 3
   Macroph. Tprot 1.6, Gluc 182, LDH 84, Alb <1.0. 1+ PMN's, negative
   Gstain.
   - PM labs: WBC stable, Hct down 23.0 --> 20.5, Plts stable. Chems: Na
   146 (increased free water to 50q4), hypoK 3.2, Cr slightly up to 1.6,
   HCO3 low at 20. Tbili improving at 7.5, Trop slightly up 0.10 to 0.12.
   - Bladder pressure of 27 so had Tx para: 5.5L taken off --> repeat
   bladder pressure 8
   - Got 2U FFP before Tx para
   - Got 1U PRBC's with Hct 20.5 --> 24
   - f/u 3rd Trop at 12am --> flat at 0.12
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2145-10-30**] 11:02 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-10-31**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.3
   HR: 75 (62 - 98) bpm
   BP: 113/53(74) {80/37(50) - 135/70(93)} mmHg
   RR: 14 (11 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 13 (3 - 13)mmHg
   Bladder pressure: 8 (8 - 25) mmHg
   Total In:
                                                                  3,364 mL
                                                                    633 mL
   PO:
                                                                    300 mL
                                                                    240 mL
   TF:
                                                                    320 mL
                                                                    317 mL
   IVF:
                                                                  1,253 mL
                                                                     77 mL
   Blood products:
                                                                  1,491 mL
   Total out:
                                                                     95 mL
                                                                     80 mL
   Urine:
                                                                     95 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
    3,269 --> 3.8 positive through LOS (this doesn't count -5.5 from para)
                                                                        mL
                                                                    553 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: 7.40/31/67/18/-3   YESTERDAY 10AM
   Physical Examination
   General Appearance: Shivering, twitching.
   Eyes / Conjunctiva: Slight icterus. Pupils dilated and not much
   constriction to light
   Cardiovascular: 2/6 systolic loudest at LLSB but heard at RSB and LUSB
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: CTAB no w/c/r/r
   Abdominal: Distended but improved from yesterday after paracentesis. No
   grimacing to palpation
   Extremities: No appreciable edema noted in BUE or BLE's
   Skin:  Not assessed, Jaundiced
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, Doesn't respond to voice. Doesn't look you in the eye.
   Does flinch eyes to confrontation
   Labs / Radiology
   37 K/uL
   7.9 g/dL
   248 mg/dL
   2.0 mg/dL
   18 mEq/L
   4.2 mEq/L
   51 mg/dL
   119 mEq/L
   147 mEq/L
   24.0 %
   6.0 K/uL
        [image002.jpg]
                            [**2145-10-30**]  10:09 AM
                            [**2145-10-30**]  01:13 PM
                            [**2145-10-31**]  12:19 AM
   WBC
   4.2
   6.0
   Hct
   20.5
   24.0  s/p transfusion
   Plt
   38
   37  stable
   Cr
   1.6
   2.0  RISING
   TropT
   0.12
   0.12
   TCO2
   20
   Glucose
   126
   248
   Other labs: PT / PTT / INR:20.4/46.9/1.9   ALL IMPROVED THIS AM , CK /
   CKMB / Troponin-T:30//0.12  FLAT , ALT / AST:20/33   NORMAL THIS AM ,
   Alk Phos / T Bili:85/7.5   TBILI TRENDING DOWN , Lactic Acid:2.1
   mmol/L   THIS AM , Albumin:2.5 g/dL, LDH:195 IU/L, Ca++:10.5 mg/dL
   ELEVATED , Mg++:2.9 mg/dL  ELEVATED, PO4:4.9 mg/dL   ELEVATED
   Fluid analysis / Other labs: Vanc this am 53.3
   Imaging: No CXR this am
   Microbiology: [**12-31**] Bcx negative to date
   [**10-30**] 2 BCx negative to date
   [**10-30**] para fluid negative
   Assessment and Plan
 HEPATORENAL SYNDROME
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 COAGULOPATHY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   A 57 year old gentleman with ESLD admitted 59 days earlier for upper GI
   bleeding now re-readmitted to the ICU for hypothermia and hypotension
   and continuing encephalopathy.
   #. Sepsis: The patient has hypotension, hypothermia and borderline
   leukopenia without an obvious source of infection.  During this
   hospitalization he has had bacteremia, pneumonia and a urinary tract
   infection. Peritonitis is also another possible source. His baseline
   blood pressures are 90s systolic. Concern for under-repletion of
   steroids given weak [**Last Name (un) **] stim, infection or worsening hypotension from
   liver disease.  Hypotension could also be from cardiogenic source.
   - Would get one more set of Troponins and if stable, stop trending
   - CVP monitoring --> [**6-9**] this am, would bolus with 1/2NS, as pt
   becoming hyperNa, to a goal of CVP 12-14
   - Continue Levo and Vasopressin to MAP>60, wean as tolerated starting
   with Levo
   - Blood, Urine, Sputum, Ascitic fluid cultures --> f/u
   - Continue with broad spectrums: Daptomycin for VRE, Cefepime/Cipro for
   GNR, PSA, atypicals
   - Warming with Bair Hugger as needed
   - Hold nadolol
   - Continue stress dose steroids
   #. Altered Mental Status: Encephalopathy, waxing and [**Doctor Last Name 282**] with other
   clinical parameters.
   - Treat underlying sepsis
   - Continue Lactulose, Rifaximin
   - No indication for intubation at this time
   #. Acute Renal Failure: Cr elevated to 2.0 from 0.9 baseline and
   trending upwards.  Hepatorenal vs. pre-renal vs. ATN while hypotensive.
   - Fluids as above
   - Urine Lytes & sediment --> need to be collected today
   - Urine culture
   - Renal consult today
   # Hypernatremia:  Patient not receiving free water flushes this AM, Na
   otherwise controlled.
   - Continue Tube feeds and free water flushes, currently at 50 q4hrs,
   can increase if no response to fluids today as above
   # Anemia & Thrombocytopenia: Hematocrit low at 23, trending down from
   26.  Likely underproduction rather than bleeding.
   - tranfuse for HCt < 21 or dropping.
   - hold nadolol for now
   - guaiac all stools
   - FFP for procedures
   - maintain active T+S
   # ESLD: Currently listed but inactive, MELDs rising.
   - Hepatology recs
   - Lactulose/Rifaximin
   - Give 50g albumin today per Hep recs
   - Monitor daily LFT
   # Coagulopathy: INR 1.9 improved today after receiving 2U FFP and VitK
   yesterday
   - VitK and FFP for procedures
   - Watch for bleeding
   # DM2: Continue Sliding scale, BS's have been increasing and will
   likely need to go up on SSI.
   - Calculate insulin needs through today and convert to long acting.
   FEN: Tube feeds novasource renal, replete electrolytes
   Prophylaxis: Boots, Pantoprazole
   Access: 2 peripherals,  LIJ Triple lumen, art line
   Code:  Full (Confirmed)
   Communication: Patient Wife [**Name (NI) 1022**]
   [**Telephone/Fax (1) 8510**] ([**Name2 (NI) **])
   [**Telephone/Fax (1) 8511**] (cell)
   [**Telephone/Fax (1) 8512**] (son - [**Name (NI) **])
   Disposition: ICU

2145-10-31 10:14:00 Physician Attending Progress Note
Chief Complaint: Hypothermia, hypotension, cirrhosis, acute renal
   failure
   HPI:
   Patient had therapeutic paracentesis (5.5L removed) yesterday with
   marked drop in bladder pressure. Urine output, however, has remained
   marginal but a bit better than yesterday ([**9-16**] ml/hr). Creat continues
   to rise.
   Continues on vasopressors.
   CVP 13 this AM.
   Temp has normalized.
   Coags improved this morning.
   24 Hour Events:
 ARTERIAL LINE - START [**2145-10-30**] 01:55 PM
 MULTI LUMEN - START [**2145-10-30**] 01:56 PM
 PARACENTESIS - At [**2145-10-30**] 11:03 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2145-10-30**] 11:02 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-10-31**] 10:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 76 (62 - 78) bpm
   BP: 115/56(75) {80/37(50) - 135/70(93)} mmHg
   RR: 19 (11 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
   CVP: 14 (3 - 14)mmHg
   Bladder pressure: 8 (8 - 25) mmHg
   Total In:
                                                                  3,364 mL
                                                                    951 mL
   PO:
                                                                    300 mL
                                                                    400 mL
   TF:
                                                                    320 mL
                                                                    444 mL
   IVF:
                                                                  1,253 mL
                                                                    107 mL
   Blood products:
                                                                  1,491 mL
   Total out:
                                                                     95 mL
                                                                  6,595 mL
   Urine:
                                                                     95 mL
                                                                     95 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
                                                                  5,500 mL
   Balance:
                                                                  3,269 mL
                                                                 -5,644 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: 7.40/31/67/18/-3
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema, Icterus
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, NG
   tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), II-III/VI systolic murmur at apex
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+ edema, Left lower
   extremity edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   37 K/uL
   248 mg/dL
   2.0 mg/dL
   18 mEq/L
   4.2 mEq/L
   51 mg/dL
   119 mEq/L
   147 mEq/L
   24.0 %
   6.0 K/uL
        [image002.jpg]
                            [**2145-10-30**]  10:09 AM
                            [**2145-10-30**]  01:13 PM
                            [**2145-10-31**]  12:19 AM
   WBC
   4.2
   6.0
   Hct
   20.5
   24.0
   Plt
   38
   37
   Cr
   1.6
   2.0
   TropT
   0.12
   0.12
   TCO2
   20
   Glucose
   126
   248
   Other labs: PT / PTT / INR:20.4/46.9/1.9, CK / CKMB /
   Troponin-T:30//0.12, ALT / AST:26/40, Alk Phos / T Bili:92/8.4, Lactic
   Acid:2.1 mmol/L, Albumin:2.5 g/dL, LDH:195 IU/L, Ca++:10.5 mg/dL,
   Mg++:2.9 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
 HEPATORENAL SYNDROME
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 COAGULOPATHY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ACUTE RENAL FAILURE
   CIRRHOSIS
   ANEMNIA
   ==================
   Body temperature has normalized. Continues on antibiotics. No
   definitive source of infection at this time. Cultures remain negative.
   Urine output remains marginal. Concern about ATN. Need to watch
   potassium closely in this setting. Would consult renal for possible
   dialysis in future. Maintain CVP at 10-12. Will need some free water
   today which can be given via NG tube. Consider albumin with lasix to
   increase urine output which would help with K excretion.
   Continues on vasopressors although dose of levophed is coming down.
   Continue lactulose for presumed hepatic encephalopathy.
   Cioagulopathy somewhat improved, but INR remains high.
   Hct stable. No evidence of active bleeding. Not at transfusion
   threshold.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2145-10-30**] 04:54 PM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2145-10-30**] 10:42 AM
   Arterial Line - [**2145-10-30**] 01:55 PM
   Multi Lumen - [**2145-10-30**] 01:56 PM
   22 Gauge - [**2145-10-30**] 03:41 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2145-11-01 06:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - renal: sediment suggestive of ATN. Check lytes to check for
   hepatorenal syndrome.
   - bladder pressure 11.
   - Urine studies show sterile pyuria, moderate eosinophils and urine
   lytes suggesting hepatorenal (very low urine sodium, despite serum
   sodium of 147).  Will need fluid challenges to prove hepatorenal
   syndrome.
   - morning labs show worsening creatinine and hypernatremia.
   -Hct this morning from 24 to 21.1
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2145-10-30**] 11:02 AM
   Ciprofloxacin - [**2145-10-31**] 11:06 AM
   Daptomycin - [**2145-10-31**] 12:45 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-10-31**] 04:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-11-1**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.9
C (96.7
   HR: 70 (68 - 78) bpm
   BP: 96/48(64) {89/43(59) - 118/57(78)} mmHg
   RR: 10 (10 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
    CVP: 15 (7 - 15)mmHg
   Total In:
                                                                  3,400 mL
                                                                    643 mL
   PO:
                                                                    750 mL
   TF:
                                                                  1,084 mL
                                                                    302 mL
   IVF:
                                                                  1,066 mL
                                                                     41 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  6,720 mL
                                                                  1,070 mL
   Urine:
                                                                    220 mL
                                                                     70 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
                                                                  5,500 mL
   Balance:
                                                                 -3,320 mL
                                                                   -427 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   36 K/uL
   7.1 g/dL
   177 mg/dL
   2.4 mg/dL
   19 mEq/L
   3.6 mEq/L
   61 mg/dL
   122 mEq/L
   150 mEq/L
   21.1 %
   7.4 K/uL
        [image002.jpg]
                            [**2145-10-30**]  10:09 AM
                            [**2145-10-30**]  01:13 PM
                            [**2145-10-31**]  12:19 AM
                            [**2145-11-1**]  03:10 AM
   WBC
   4.2
   6.0
   7.4
   Hct
   20.5
   24.0
   21.1
   Plt
   38
   37
   36
   Cr
   1.6
   2.0
   2.4
   TropT
   0.12
   0.12
   TCO2
   20
   Glucose
   126
   248
   177
   Other labs: PT / PTT / INR:26.0/44.5/2.5, CK / CKMB /
   Troponin-T:30//0.12, ALT / AST:23/43, Alk Phos / T Bili:98/7.5,
   Fibrinogen:92 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.5 g/dL, LDH:208
   IU/L, Ca++:10.8 mg/dL, Mg++:3.1 mg/dL, PO4:4.6 mg/dL
   Microbiology:
   [**10-28**], [**10-30**], [**10-31**] Bcx negative to date
   [**10-30**] para fluid negative
   Assessment and Plan
 HYPERGLYCEMIA
 HEPATORENAL SYNDROME
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 COAGULOPATHY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   A 57 year old gentleman with ESLD admitted 59 days earlier for upper GI
   bleeding now re-readmitted to the ICU for hypothermia and hypotension
   and continuing encephalopathy.
   #. Sepsis: The patient has hypotension, hypothermia and borderline
   leukopenia without an obvious source of infection.  During this
   hospitalization he has had bacteremia, pneumonia and a urinary tract
   infection. Peritonitis is also another possible source. His baseline
   blood pressures are 90s systolic. Concern for under-repletion of
   steroids given weak [**Last Name (un) **] stim, infection or worsening hypotension from
   liver disease.  Hypotension could also be from cardiogenic source.
   - Would get one more set of Troponins and if stable, stop trending
   - CVP monitoring --> [**6-9**] this am, would bolus with 1/2NS, as pt
   becoming hyperNa, to a goal of CVP 12-14
   - Continue Levo and Vasopressin to MAP>60, wean as tolerated starting
   with Levo
   - Blood, Urine, Sputum, Ascitic fluid cultures --> f/u
   - Continue with broad spectrums: Daptomycin for VRE, Cefepime/Cipro for
   GNR, PSA, atypicals
   - Warming with Bair Hugger as needed
   - Hold nadolol
   - Continue stress dose steroids
   #. Altered Mental Status: Encephalopathy, waxing and [**Doctor Last Name 282**] with other
   clinical parameters.
   - Treat underlying sepsis
   - Continue Lactulose, Rifaximin
   - No indication for intubation at this time
   #. Acute Renal Failure: Cr elevated to 2.0 from 0.9 baseline and
   trending upwards.  Hepatorenal vs. pre-renal vs. ATN while hypotensive.
   - Fluids as above
   - Urine Lytes & sediment --> need to be collected today
   - Urine culture
   - Renal consult today
   # Hypernatremia:  Patient not receiving free water flushes this AM, Na
   otherwise controlled.
   - Continue Tube feeds and free water flushes, currently at 50 q4hrs,
   can increase if no response to fluids today as above
   # Anemia & Thrombocytopenia: Hematocrit low at 23, trending down from
   26.  Likely underproduction rather than bleeding.
   - tranfuse for HCt < 21 or dropping.
   - hold nadolol for now
   - guaiac all stools
   - FFP for procedures
   - maintain active T+S
   # ESLD: Currently listed but inactive, MELDs rising.
   - Hepatology recs
   - Lactulose/Rifaximin
   - Give 50g albumin today per Hep recs
   - Monitor daily LFT
   # Coagulopathy: INR 1.9 improved today after receiving 2U FFP and VitK
   yesterday
   - VitK and FFP for procedures
   - Watch for bleeding
   # DM2: Continue Sliding scale, BS's have been increasing and will
   likely need to go up on SSI.
   - Calculate insulin needs through today and convert to long acting.
   FEN: Tube feeds novasource renal, replete electrolytes
   Prophylaxis: Boots, Pantoprazole
   Access: 2 peripherals,  LIJ Triple lumen, art line
   Code:  Full (Confirmed)
   Communication: Patient Wife [**Name (NI) 1022**]
   [**Telephone/Fax (1) 8510**] ([**Name2 (NI) **])
   [**Telephone/Fax (1) 8511**] (cell)
   [**Telephone/Fax (1) 8512**] (son - [**Name (NI) **])
   Disposition: ICU
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2145-10-31**] 02:59 PM 45 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-10-30**] 10:42 AM
   Arterial Line - [**2145-10-30**] 01:55 PM
   Multi Lumen - [**2145-10-30**] 01:56 PM
   22 Gauge - [**2145-10-30**] 03:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-11-01 12:11:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo man with cirrhosis, has been in hospital for 50 days.
   Transferred to MICU on saturday [**10-30**] with hypothermia, HOTN, altered
   MS.  [**Name13 (STitle) 368**] improved somewhat, but still with acute renal failure and
   encephalopathic
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-10-31**] 11:06 AM
   Cefipime - [**2145-11-1**] 09:55 AM
   Daptomycin - [**2145-11-1**] 11:48 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-10-31**] 04:05 PM
   Other medications:
   rifaxamin
   MVI
   SSI
   FeSO4
   lactulose
   thiamine
   cefepime
   daptomycin
   vasopressin 2.4
   protonix
   cipro
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-11-1**] 12:11 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 76 (68 - 78) bpm
   BP: 97/50(66) {86/43(59) - 118/57(78)} mmHg
   RR: 13 (8 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 20 (8 - 21)mmHg
   Total In:
                                                                  3,400 mL
                                                                  1,197 mL
   PO:
                                                                    750 mL
   TF:
                                                                  1,084 mL
                                                                    534 mL
   IVF:
                                                                  1,066 mL
                                                                    213 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  6,720 mL
                                                                  1,115 mL
   Urine:
                                                                    220 mL
                                                                    115 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
                                                                  5,500 mL
   Balance:
                                                                 -3,320 mL
                                                                     82 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///19/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : left base)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: No(t) Unable to stand
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: Purposeful, Tone: Not assessed, clonus
   in feet with extension
   Labs / Radiology
   7.1 g/dL
   36 K/uL
   177 mg/dL
   2.4 mg/dL
   19 mEq/L
   3.6 mEq/L
   61 mg/dL
   122 mEq/L
   150 mEq/L
   21.1 %
   7.4 K/uL
        [image002.jpg]
                            [**2145-10-30**]  10:09 AM
                            [**2145-10-30**]  01:13 PM
                            [**2145-10-31**]  12:19 AM
                            [**2145-11-1**]  03:10 AM
   WBC
   4.2
   6.0
   7.4
   Hct
   20.5
   24.0
   21.1
   Plt
   38
   37
   36
   Cr
   1.6
   2.0
   2.4
   TropT
   0.12
   0.12
   TCO2
   20
   Glucose
   126
   248
   177
   Other labs: PT / PTT / INR:26.0/44.5/2.5, CK / CKMB /
   Troponin-T:30//0.12, ALT / AST:23/43, Alk Phos / T Bili:98/7.5,
   Fibrinogen:92 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.5 g/dL, LDH:208
   IU/L, Ca++:10.8 mg/dL, Mg++:3.1 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 HYPERGLYCEMIA
 HEPATORENAL SYNDROME
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 COAGULOPATHY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   HOTN/septic shock:  still on vasopressin, try and wean.
   unclear source for sepsis.  On empiric treatment with
   dapto/cefepime/cipro
   acute renal failure:  prerenal versus HRS.    Recheck renal lytes
   hypernatremia:  D5W.
   anemia: Hct drop.  transfuse.
   cirrhosis:  evidence of encephalopathy currently
   DM:  Sugars better controlled with insulin drip.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2145-10-31**] 02:59 PM 45 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-10-30**] 10:42 AM
   Arterial Line - [**2145-10-30**] 01:55 PM
   Multi Lumen - [**2145-10-30**] 01:56 PM
   22 Gauge - [**2145-10-30**] 03:41 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2145-11-02 06:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - morning labs show worsening creatinine and hypernatremia after
   receiving LR yesterday evening.
   - Transplant recommended fungal coverage (micafungin?), but ID
   recommended  holding on additional abx for now
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2145-11-1**] 09:55 AM
   Daptomycin - [**2145-11-1**] 11:48 AM
   Ciprofloxacin - [**2145-11-2**] 12:35 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-11-2**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 75 (66 - 79) bpm
   BP: 105/46(64) {86/41(60) - 110/54(74)} mmHg
   RR: 19 (8 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 15 (7 - 329)mmHg
   Total In:
                                                                  4,646 mL
                                                                  1,176 mL
   PO:
   TF:
                                                                    897 mL
                                                                    134 mL
   IVF:
                                                                  2,169 mL
                                                                    771 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,523 mL
                                                                     95 mL
   Urine:
                                                                    223 mL
                                                                     95 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,123 mL
                                                                  1,081 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///16/
   Physical Examination
   GENERAL: NAD, not responsive to name, sleepy
   CV: RRR, II/VI SEM @LSB
   PULM: rales at LLB
   ABD: distended, non-tender
   EXTR: 2+  edema
   Labs / Radiology
   26 K/uL
   7.7 g/dL
   267 mg/dL
   2.6 mg/dL
   16 mEq/L
   3.0 mEq/L
   73 mg/dL
   121 mEq/L
   149 mEq/L
   22.2 %
   7.9 K/uL
        [image002.jpg]
                            [**2145-10-30**]  10:09 AM
                            [**2145-10-30**]  01:13 PM
                            [**2145-10-31**]  12:19 AM
                            [**2145-11-1**]  03:10 AM
                            [**2145-11-1**]  04:01 PM
                            [**2145-11-1**]  06:24 PM
                             [**2145-11-2**]  04:33 AM
   WBC
   4.2
   6.0
   7.4
   8.0
   7.9
   Hct
   20.5
   24.0
   21.1
   23.8
   22.2
   Plt
   38
   37
   36
   28
   26
   Cr
   1.6
   2.0
   2.4
   2.5
   2.6
   TropT
   0.12
   0.12
   TCO2
   20
   Glucose
   126
   248
   177
   298
   267
   Other labs: PT / PTT / INR:26.4/45.0/2.6, CK / CKMB /
   Troponin-T:20//0.12, ALT / AST:26/42, Alk Phos / T Bili:107/8.7,
   Fibrinogen:92 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.9 g/dL, LDH:218
   IU/L, Ca++:10.9 mg/dL, Mg++:3.0 mg/dL, PO4:5.2 mg/dL
   Imaging: [**11-2**] cxr pnd
   Microbiology: [**11-1**] UCx YEAST.    10,000-100,000 ORGANISMS/ML..
   [**10-31**], [**10-30**], [**10-28**] blood cx ntd
   Assessment and Plan
 HYPERGLYCEMIA
 HEPATORENAL SYNDROME
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 COAGULOPATHY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   A 57 year old gentleman with ESLD (on transplant list) admitted 59 days
   earlier for upper GI bleeding now re-readmitted to the ICU for
   hypothermia and hypotension and continuing encephalopathy.
   #. Sepsis: The patient has hypotension, hypothermia and borderline
   leukopenia without an obvious source of infection.  During this
   hospitalization he has had bacteremia, pneumonia and a urinary tract
   infection. Peritonitis is also another possible source. His baseline
   blood pressures are 90s systolic. Concern for under-repletion of
   steroids given weak [**Last Name (un) **] stim, infection or worsening hypotension from
   liver disease.  Hypotension could also be from cardiogenic source, but
   cardiac enzymes stable, no longer trending.
   - Fungal markers, micolytic cultures
   - CXR tomorrow to evaluate for ?infiltrate
   - CVP monitoring --> within goal of [**11-15**] CVP
   - Continue Vasopressin to MAP>60, wean as tolerated
   - Blood, Urine, Sputum, Ascitic fluid cultures --> f/u
   - Continue with broad spectrums: Daptomycin for VRE, Cefepime/Cipro for
   GNR, PSA, atypicals [check CK level weekly due to being on Dapto]
   - Warming with Bair Hugger as needed
   - Hold nadolol
   - Continue stress dose steroids
   #. Altered Mental Status: Encephalopathy, waxing and [**Doctor Last Name 282**] with other
   clinical parameters.
   - Treat underlying sepsis
   - Continue Lactulose, Rifaximin
   - No indication for intubation at this time
   - No longer on vanco, but follow vanc level to ensure clearing
   #. Acute Renal Failure: Cr elevated to 2.0 from 0.9 baseline and
   trending upwards.  Hepatorenal vs. pre-renal vs. ATN while hypotensive.
   - Fluids as above
   - Discuss possibility of hepatorenal syndrome with renal, consider
   octreotide and midodrine if appropriate
   - No HD today, Renal will reassess tomorrow
   - Bladder pressures today
 if high, consider paracentesis
   - Urine lytes reordered, per renal
   - Bladder pressure today; if high, consider paracentesis
   # Hypernatremia:
   - Switch from D5W at 75 cc/hour to
 NS @ 100cc/hr for free water
   deficit of >3L
   - Continue tube feeds and free water flushes, currently at 150 q4hrs
   # Anemia & Thrombocytopenia: Hematocrit dropped today
 no obvious
   source of bleeding. Question underproduction rather than bleeding. s/p
   last transfusion on [**10-30**].
   - tranfuse 1 unit pRBC today
   - hold nadolol for now
   - guaiac stools
   - FFP for procedures
   - maintain active T+S
   - re-check peripheral smear
   # ESLD: Currently listed but inactive, MELDs rising.
   - Hepatology recs
   - Lactulose/Rifaximin
   - Monitor daily LFT
   # DM2: No longer on insulin drip; watch sugars today and then adjust
   glargine and SS as needed.  Hyperglycemia on D5W, will switch to
   for better sugar control.
   - Switch from D5W to 1/2NS
   -Adjust sliding scale as needed
   # Coagulopathy: INR 2.5 improved today after receiving 2U FFP and VitK
   on [**10-30**]
   - VitK and FFP for procedures
   - Watch for bleeding
   - Check daily coags
   FEN: Tube feeds novasource renal, replete electrolytes
   Prophylaxis: Boots, Pantoprazole
   Access: 2 peripherals,  LIJ Triple lumen, art line
   Code:  Full (Confirmed)
   Communication: Patient Wife [**Name (NI) 1022**]
   [**Telephone/Fax (1) 8510**] ([**Name2 (NI) **])
   [**Telephone/Fax (1) 8511**] (cell)
   [**Telephone/Fax (1) 8512**] (son - [**Name (NI) **])
   Disposition: ICU
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2145-11-1**] 12:54 PM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-10-30**] 10:42 AM
   Arterial Line - [**2145-10-30**] 01:55 PM
   Multi Lumen - [**2145-10-30**] 01:56 PM
   22 Gauge - [**2145-10-30**] 03:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-11-02 09:52:00 Physician Attending Progress Note
Chief Complaint: septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo man with cirrhosis, admitted wtih septic shock respiratory
   failure. Being treated for HAP.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2145-11-1**] 09:55 AM
   Daptomycin - [**2145-11-1**] 11:48 AM
   Ciprofloxacin - [**2145-11-2**] 12:35 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Other medications:
   MIV
   FeSO4
   lactulose
   thiamine
   hydrocort
   protonix
   rifaxamin
   SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-11-2**] 09:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98
   HR: 74 (66 - 79) bpm
   BP: 104/46(65) {95/41(60) - 110/54(74)} mmHg
   RR: 18 (9 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 15 (7 - 329)mmHg
   Bladder pressure: 18 (18 - 18) mmHg
   Total In:
                                                                  4,646 mL
                                                                  1,478 mL
   PO:
   TF:
                                                                    897 mL
                                                                    190 mL
   IVF:
                                                                  2,169 mL
                                                                  1,017 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,523 mL
                                                                  1,195 mL
   Urine:
                                                                    223 mL
                                                                    195 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                  2,123 mL
                                                                    283 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///16/
   Physical Examination
   Eyes / Conjunctiva: PERRL, icteric
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : left base)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   26 K/uL
   267 mg/dL
   2.6 mg/dL
   16 mEq/L
   3.0 mEq/L
   73 mg/dL
   121 mEq/L
   149 mEq/L
   22.2 %
   7.9 K/uL
        [image002.jpg]
                            [**2145-10-30**]  10:09 AM
                            [**2145-10-30**]  01:13 PM
                            [**2145-10-31**]  12:19 AM
                            [**2145-11-1**]  03:10 AM
                            [**2145-11-1**]  04:01 PM
                            [**2145-11-1**]  06:24 PM
                             [**2145-11-2**]  04:33 AM
   WBC
   4.2
   6.0
   7.4
   8.0
   7.9
   Hct
   20.5
   24.0
   21.1
   23.8
   22.2
   Plt
   38
   37
   36
   28
   26
   Cr
   1.6
   2.0
   2.4
   2.5
   2.6
   TropT
   0.12
   0.12
   TCO2
   20
   Glucose
   126
   248
   177
   298
   267
   Other labs: PT / PTT / INR:26.4/45.0/2.6, CK / CKMB /
   Troponin-T:20//0.12, ALT / AST:26/42, Alk Phos / T Bili:107/8.7,
   Fibrinogen:92 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.9 g/dL, LDH:218
   IU/L, Ca++:10.9 mg/dL, Mg++:3.0 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
 HYPERGLYCEMIA
 HEPATORENAL SYNDROME
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 COAGULOPATHY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   Septic shock:  Continues dependent upon low dose vasopressin.  At doses
   given, studies show that this dose actually improves gut perfusion
   so less concerned about feeding with vasopressin.
   In terms of antibiotics, he seems to have improved so will hold off on
   empiric antifungal coverage.
   Acute renal failure:  urine Na<10.  Will discuss with liver about
   treating with octreotide/midodrine
   DM:  having high blood sugar.  stop all D5W.  Increase glargine
   hypernatremia:  getting 1/2NS.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2145-11-1**] 12:54 PM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-10-30**] 10:42 AM
   Arterial Line - [**2145-10-30**] 01:55 PM
   Multi Lumen - [**2145-10-30**] 01:56 PM
   22 Gauge - [**2145-10-30**] 03:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2145-11-03 07:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Received 1 unit PRBC
   - Received 1/2 NS in afternoon
   - Micolytic markers and cx sent, C. diff sent
   - Increased Glargine 10->14 units qhs for sugars in 200's-300's
   - Started Octreotide, Midodrine, Albumin per liver recs for hepatorenal
   syndrome
   - Hypernatremic and Cr still elevated in PM, given 1L NS given diarrhea
   and likely dehydration
   - Renal asked nurse [**First Name (Titles) **] [**Last Name (Titles) **] pressures - if high (18 yesterday), can
   consider paracentesis
   - per renal, give FFP and platelets this morning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-11-2**] 12:35 AM
   Cefipime - [**2145-11-2**] 10:00 AM
   Daptomycin - [**2145-11-2**] 01:00 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-11-3**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.8
C (96.4
   HR: 72 (60 - 77) bpm
   BP: 112/55(73) {91/44(62) - 120/62(82)} mmHg
   RR: 13 (10 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 15 (11 - 19)mmHg
   Total In:
                                                                  4,011 mL
                                                                  1,413 mL
   PO:
   TF:
                                                                    480 mL
                                                                    148 mL
   IVF:
                                                                  2,318 mL
                                                                  1,085 mL
   Blood products:
                                                                    283 mL
   Total out:
                                                                  1,360 mL
                                                                  1,345 mL
   Urine:
                                                                    360 mL
                                                                    145 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                  2,651 mL
                                                                     68 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///14/
   Physical Examination
   GEN: NAD, unresponsive to verbal stimuli. Spontaneously moving head
   side-to-side.
   CV: RRR, III/VI SEM
   PULM: CTAB
   ABD: +BS, distended, soft, non-tender.
   EXTR: 1+ edema b/l feet
   SKIN: jaundiced throughout
   Labs / Radiology
   17 K/uL
   8.2 g/dL
   247 mg/dL
   2.8 mg/dL
   14 mEq/L
   4.1 mEq/L
   80 mg/dL
   124 mEq/L
   149 mEq/L
   24.2 %
   7.5 K/uL
        [image002.jpg]
                            [**2145-10-30**]  10:09 AM
                            [**2145-10-30**]  01:13 PM
                            [**2145-10-31**]  12:19 AM
                            [**2145-11-1**]  03:10 AM
                            [**2145-11-1**]  04:01 PM
                            [**2145-11-1**]  06:24 PM
                             [**2145-11-2**]  04:33 AM
                             [**2145-11-2**]  05:30 PM
                             [**2145-11-3**]  03:16 AM
   WBC
   4.2
   6.0
   7.4
   8.0
   7.9
   7.5
   Hct
   20.5
   24.0
   21.1
   23.8
   22.2
   24.2
   Plt
   38
   37
   36
   28
   26
   17
   Cr
   1.6
   2.0
   2.4
   2.5
   2.6
   2.5
   2.8
   TropT
   0.12
   0.12
   TCO2
   20
   Glucose
   126
   248
   177
   298
   267
   221
   247
   Other labs: PT / PTT / INR:27.8/44.8/2.7, CK / CKMB /
   Troponin-T:20//0.12, ALT / AST:31/49, Alk Phos / T Bili:106/8.5,
   Fibrinogen:92 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.9 g/dL, LDH:216
   IU/L, Ca++:10.5 mg/dL, Mg++:3.0 mg/dL, PO4:5.6 mg/dL
   CXR (my read)
 accounting for position change, no significant change
   Micro: cdiff negative
[**10-31**] URINE CULTURE (Final [**2145-11-1**]):
         YEAST.    10,000-100,000 ORGANISMS/ML.
   Assessment and Plan
 HYPERGLYCEMIA
 HEPATORENAL SYNDROME
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 COAGULOPATHY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   A 57 year old gentleman with ESLD (on transplant list) admitted 59 days
   earlier for upper GI bleeding now re-readmitted to the ICU for
   hypothermia and hypotension and continuing encephalopathy.
   #. Sepsis: The patient has hypotension, hypothermia and borderline
   leukopenia without an obvious source of infection.  During this
   hospitalization he has had bacteremia, pneumonia and a urinary tract
   infection. Peritonitis is also another possible source. His baseline
   blood pressures are 90s systolic. Concern for under-repletion of
   steroids given weak [**Last Name (un) **] stim, infection or worsening hypotension from
   liver disease.  Hypotension could also be from cardiogenic source, but
   cardiac enzymes stable, no longer trending.
   - Fungal markers, micolytic cultures
   - CVP monitoring --> within goal of [**11-15**] CVP
   - Continue Vasopressin to MAP>60, wean as tolerated
   - Blood, Urine, Sputum, Ascitic fluid cultures --> f/u
   - Continue with broad spectrums: Daptomycin for VRE, Cefepime/Cipro for
   GNR, PSA, atypicals [check CK level weekly due to being on Dapto]
   - Warming with Bair Hugger as needed
   - Hold nadolol
   - Continue stress dose steroids
   - Increase midodrine to 15 tid
   #. Altered Mental Status: Encephalopathy, waxing and [**Doctor Last Name 282**] with other
   clinical parameters.
   - Treat underlying sepsis
   - Continue Lactulose, Rifaximin
   - No indication for intubation at this time
   - No longer on vanco, but follow vanc level to ensure clearing
   #. Acute Renal Failure: Cr elevated to 2.0 from 0.9 baseline and
   trending upwards.  Hepatorenal vs. pre-renal vs. ATN while hypotensive.
   - Per renal, plan for femoral line placement today and then HD
   - Started octreotide and midodrine and albumin per liver for
   hepatorenal syndrome treatment
   - Check [**Doctor Last Name **] pressure today
 if high, consider paracentesis, check
   with hepatology
   - Urine lytes reordered, per renal
   # Hypernatremia:  improved
   - Continue tube feeds and free water flushes, currently at 150 q4hrs
   - HD today
   -
 NS x 1L at 100cc/hour
   # Anemia & Thrombocytopenia: Hematocrit stable today
 no obvious
   source of bleeding. Question underproduction rather than bleeding. s/p
   last transfusion on [**11-2**].
   - hold nadolol for now
   - guaiac stools
   - FFP for procedures
   - maintain active T+S
   - re-check peripheral smear
   - check pm cbc, coags, fibrinogen
   - given platelets and FFP this morning, per renal
   - 1 unit cryoprecipitate to be given today prior to line placement
   # ESLD: Currently listed but inactive, MELDs rising.
   - Hepatology recs
   - Lactulose/Rifaximin
   - Monitor daily LFT
   - treatment for hepatorenal syndrome as above
   # DM2: No longer on insulin drip; watch sugars today and then adjust
   glargine and SS as needed.  Hyperglycemia on D5W, switched to
 NS for
   better sugar control.
   -Adjust sliding scale as needed
   # Coagulopathy: INR 2.7 improved today after receiving 2U FFP and VitK
   on [**10-30**]
   - VitK and FFP for procedures
   - Check daily coags
   FEN: Tube feeds novasource renal, replete electrolytes
   Prophylaxis: Boots, Pantoprazole
   Access: 2 peripherals,  LIJ Triple lumen, art line. Renal to place
   femoral line today for initiation of dialysis.
   Code:  Full (Confirmed)
   Communication: Patient Wife [**Name (NI) 1022**]
   [**Telephone/Fax (1) 8510**] ([**Name2 (NI) **])
   [**Telephone/Fax (1) 8511**] (cell)
   [**Telephone/Fax (1) 8512**] (son - [**Name (NI) **])
   Disposition: ICU
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2145-11-1**] 12:54 PM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-10-30**] 10:42 AM
   Arterial Line - [**2145-10-30**] 01:55 PM
   Multi Lumen - [**2145-10-30**] 01:56 PM
   22 Gauge - [**2145-10-30**] 03:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-11-03 12:18:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo man with HCV cirrhosis, renal failure, septic shock.  Patient
   with continued olguria,
   renal failure, and poor mental status
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-11-2**] 12:35 AM
   Daptomycin - [**2145-11-2**] 01:00 PM
   Cefipime - [**2145-11-3**] 10:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   MVI
   lactulose
   thiamin
   hydrocort
   protonix
   cipro
   SSI
   glargine
   albumin
   octreotide
   midodrine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-11-3**] 12:18 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 73 (60 - 77) bpm
   BP: 104/46(63) {91/45(62) - 121/62(82)} mmHg
   RR: 17 (10 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 17 (11 - 19)mmHg
   Total In:
                                                                  4,011 mL
                                                                  1,920 mL
   PO:
   TF:
                                                                    480 mL
                                                                    240 mL
   IVF:
                                                                  2,318 mL
                                                                  1,199 mL
   Blood products:
                                                                    283 mL
                                                                    200 mL
   Total out:
                                                                  1,360 mL
                                                                  1,385 mL
   Urine:
                                                                    360 mL
                                                                    185 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                  2,651 mL
                                                                    535 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///14/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   17 K/uL
   247 mg/dL
   2.8 mg/dL
   14 mEq/L
   4.1 mEq/L
   80 mg/dL
   124 mEq/L
   149 mEq/L
   24.2 %
   7.5 K/uL
        [image002.jpg]
                            [**2145-10-30**]  10:09 AM
                            [**2145-10-30**]  01:13 PM
                            [**2145-10-31**]  12:19 AM
                            [**2145-11-1**]  03:10 AM
                            [**2145-11-1**]  04:01 PM
                            [**2145-11-1**]  06:24 PM
                             [**2145-11-2**]  04:33 AM
                             [**2145-11-2**]  05:30 PM
                             [**2145-11-3**]  03:16 AM
   WBC
   4.2
   6.0
   7.4
   8.0
   7.9
   7.5
   Hct
   20.5
   24.0
   21.1
   23.8
   22.2
   24.2
   Plt
   38
   37
   36
   28
   26
   17
   Cr
   1.6
   2.0
   2.4
   2.5
   2.6
   2.5
   2.8
   TropT
   0.12
   0.12
   TCO2
   20
   Glucose
   126
   248
   177
   298
   267
   221
   247
   Other labs: PT / PTT / INR:27.8/44.8/2.7, CK / CKMB /
   Troponin-T:20//0.12, ALT / AST:31/49, Alk Phos / T Bili:106/8.5,
   Fibrinogen:92 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.9 g/dL, LDH:216
   IU/L, Ca++:10.5 mg/dL, Mg++:3.0 mg/dL, PO4:5.6 mg/dL
   Fluid analysis / Other labs: fibrinogen 92
   Assessment and Plan
 HYPERGLYCEMIA
 HEPATORENAL SYNDROME
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 COAGULOPATHY
 SEPSIS
   Septic shock:  Off pressors.  No clear infectious source.
   Encephalopathy/delirium:  likely hepatic with some contribution of
   renal failure.
   Acute renal failure:  to get dialysis, attempt at HD.  Increase
   midodrine for HRS.
   Coagulopathy:  plts, FFP, cryo for line placement.
   Cirrhosis:  bladder pressure 18, consider paracentesis.
   DM:  Sugars with better control
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2145-11-3**] 10:33 AM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-10-30**] 10:42 AM
   Arterial Line - [**2145-10-30**] 01:55 PM
   Multi Lumen - [**2145-10-30**] 01:56 PM
   22 Gauge - [**2145-10-30**] 03:41 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2145-11-04 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2145-11-3**] 04:20 PM
   HD planned for today, per renal.
   femoral line placed by renal
   for hypernatremia, increased free water flushes
   -hepatology recommended adding fungal for yeast in urine (did not do
   this yet)
   -off pressors since ~10am, and holding BP well
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2145-11-2**] 01:00 PM
   Cefipime - [**2145-11-3**] 10:00 AM
   Ciprofloxacin - [**2145-11-4**] 01:13 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-11-4**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98
   HR: 68 (47 - 77) bpm
   BP: 123/54(75) {104/46(63) - 137/63(88)} mmHg
   RR: 11 (9 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 19 (17 - 19)mmHg
   Bladder pressure: 13 (13 - 13) mmHg
   Total In:
                                                                  4,152 mL
                                                                  1,544 mL
   PO:
   TF:
                                                                    480 mL
                                                                    141 mL
   IVF:
                                                                  1,319 mL
                                                                    624 mL
   Blood products:
                                                                  1,893 mL
   Total out:
                                                                  2,310 mL
                                                                     45 mL
   Urine:
                                                                    310 mL
                                                                     45 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,842 mL
                                                                  1,499 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: 7.36/26/85.[**Numeric Identifier 433**]/15/-8
   Physical Examination
   GEN: NAD, unresponsive to verbal stimuli. Spontaneously moving head
   side-to-side. Spontaneous eye-opening but without tracking or purpose
   apparent.
   CV: RRR, III/VI SEM
   PULM: CTAB
   ABD: +BS, distended, soft, non-tender.
   EXTR: 1+ edema b/l feet, 2+ pedal edema.
   SKIN: jaundiced throughout, face flushed, spider angiomata.
   Labs / Radiology
   26 K/uL
   7.7 g/dL
   209 mg/dL
   3.1 mg/dL
   15 mEq/L
   3.7 mEq/L
   87 mg/dL
   121 mEq/L
   151 mEq/L
   22.9 %
   8.5 K/uL
        [image002.jpg]
                            [**2145-10-30**]  01:13 PM
                            [**2145-10-31**]  12:19 AM
                            [**2145-11-1**]  03:10 AM
                            [**2145-11-1**]  04:01 PM
                            [**2145-11-1**]  06:24 PM
                             [**2145-11-2**]  04:33 AM
                             [**2145-11-2**]  05:30 PM
                             [**2145-11-3**]  03:16 AM
                             [**2145-11-4**]  01:53 AM
                             [**2145-11-4**]  02:03 AM
   WBC
   4.2
   6.0
   7.4
   8.0
   7.9
   7.5
   8.5
   Hct
   20.5
   24.0
   21.1
   23.8
   22.2
   24.2
   22.9
   Plt
   38
   37
   36
   28
   26
   17
   26
   Cr
   1.6
   2.0
   2.4
   2.5
   2.6
   2.5
   2.8
   3.1
   TropT
   0.12
   0.12
   TCO2
   15
   Glucose
   126
   248
   177
   298
   [**Telephone/Fax (2) 9624**]09
   Other labs: PT / PTT / INR:22.2/37.2/2.1, CK / CKMB /
   Troponin-T:20//0.12, ALT / AST:40/60, Alk Phos / T Bili:97/9.9,
   Fibrinogen:138 mg/dL, Lactic Acid:2.7 mmol/L, Albumin:3.6 g/dL, LDH:238
   IU/L, Ca++:11.5 mg/dL, Mg++:3.1 mg/dL, PO4:6.6 mg/dL
   Fungal (beta-glucan and galactomannan)
 pending
   c.diff negative x2
URINE CULTURE (Final [**2145-11-1**]):
         YEAST.    10,000-100,000 ORGANISMS/ML..
   No positive blood cultures.
   CXR: new moderate pulmonary edema (wet read)
   Assessment and Plan
 HYPERGLYCEMIA
 HEPATORENAL SYNDROME
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 COAGULOPATHY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   A 57 year old gentleman with ESLD (on transplant list) admitted 59 days
   earlier for upper GI bleeding now re-readmitted to the ICU for
   hypothermia and hypotension and continuing encephalopathy.
   #. Sepsis: The patient has hypotension, hypothermia and borderline
   leukopenia without an obvious source of infection.  During this
   hospitalization he has had bacteremia, pneumonia and a urinary tract
   infection. Peritonitis is also another possible source. His baseline
   blood pressures are 90s systolic. Concern for under-repletion of
   steroids given weak [**Last Name (un) **] stim, infection or worsening hypotension from
   liver disease.  Hypotension could also be from cardiogenic source, but
   cardiac enzymes stable, no longer trending.
   - Fungal markers, micolytic cultures
   - CVP monitoring --> within goal of [**11-15**] CVP
   - Continue Vasopressin to MAP>60, wean as tolerated
   - Blood, Urine, Sputum, Ascitic fluid cultures --> f/u
   - Continue with broad spectrums: Daptomycin for VRE, Cefepime/Cipro for
   GNR, PSA, atypicals [check CK level weekly due to being on Dapto] =
   plan for 7-day course of these 3 antibiotics as empiric treatment
   - Warming with Bair Hugger as needed
   - Hold nadolol
   - Continue stress dose steroids
   - Continue midodrine 15 tid
   - start fungal coverage, for yeast in urine, per hepatology, likely
   with micafungin but discuss with ID team first
   #. Altered Mental Status: Encephalopathy, waxing and [**Doctor Last Name 282**] with other
   clinical parameters.
   - Treat underlying sepsis
   - Continue Lactulose, Rifaximin
   - No indication for intubation at this time
   - No longer on vanco, but follow vanc level to ensure clearing
   #. Acute Renal Failure: Cr elevated to 2.0 from 0.9 baseline and
   trending upwards.  Hepatorenal vs. pre-renal vs. ATN while hypotensive.
   - Per renal, plan for HD today
   - Continue octreotide and midodrine and albumin per liver for
   hepatorenal syndrome treatment
   - Renal to correct lytes with HD today; d/c IVF also until HD
   # Hypernatremia:  improved
   - Continue tube feeds and free water flushes, currently at 300 q4hrs
   - HD today
   # Anemia & Thrombocytopenia: Hematocrit stable today
 no obvious
   source of bleeding. Question underproduction rather than bleeding. s/p
   last transfusion on [**11-2**].
   - hold nadolol for now
   - FFP for procedures
   - maintain active T+S
   - re-check peripheral smear
   - follow daily cbc, coags, fibrinogen
   # ESLD: Currently listed but inactive, MELDs rising.
   - Hepatology recs
   - Lactulose/Rifaximin
   - albumin
   - Monitor daily LFT
 stable today
   - treatment for hepatorenal syndrome as above
   # DM2: No longer on insulin drip; watch sugars today and then adjust
   glargine and SS as needed.  Hyperglycemia on D5W, switched to
 NS for
   better sugar control.
   -Adjust sliding scale as needed
   # Coagulopathy: INR 2.1 improved today. Fibrinogen 138 today.
   - VitK and FFP for procedures
   - Check daily coags
   # Hypercalcemia: Believed due to renal failure
   - to be taken into account during HD today
   # ?Dropped beats on telemetry
   - replete lytes prn, to be done at HD today, per renal
   - check EKG this morning
   .
   FEN: Tube feeds novasource renal, replete electrolytes
   Prophylaxis: Boots, Pantoprazole
   Access: 2 peripherals,  LIJ Triple lumen, art line, femoral line.
   Code:  Full (Confirmed)
   Communication: Patient Wife [**Name (NI) 1022**]
   [**Telephone/Fax (1) 8510**] ([**Name2 (NI) **])
   [**Telephone/Fax (1) 8511**] (cell)
   [**Telephone/Fax (1) 8512**] (son - [**Name (NI) **])
   Disposition: ICU
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2145-11-3**] 10:33 AM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-10-30**] 10:42 AM
   Arterial Line - [**2145-10-30**] 01:55 PM
   Multi Lumen - [**2145-10-30**] 01:56 PM
   22 Gauge - [**2145-10-30**] 03:41 PM
   Dialysis Catheter - [**2145-11-3**] 04:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-11-04 09:52:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo man with ESLD, on transplant list, acute renal failure,
   encephalopathy.
   24 Hour Events:
 DIALYSIS CATHETER - START [**2145-11-3**] 04:20 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2145-11-2**] 01:00 PM
   Cefipime - [**2145-11-3**] 10:00 AM
   Ciprofloxacin - [**2145-11-4**] 01:13 AM
   Infusions:
   Other ICU medications:
   Other medications:
   lactulose
   midodrine
   protonix
   octreotide
   albumin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-11-4**] 09:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.3
C (95.5
   HR: 66 (47 - 75) bpm
   BP: 122/54(75) {104/46(63) - 137/63(88)} mmHg
   RR: 17 (9 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 15 (15 - 19)mmHg
   Bladder pressure: 13 (13 - 13) mmHg
   Total In:
                                                                  4,152 mL
                                                                  2,083 mL
   PO:
   TF:
                                                                    480 mL
                                                                    191 mL
   IVF:
                                                                  1,319 mL
                                                                    782 mL
   Blood products:
                                                                  1,893 mL
   Total out:
                                                                  2,310 mL
                                                                     80 mL
   Urine:
                                                                    310 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,842 mL
                                                                  2,003 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: 7.36/26/85.[**Numeric Identifier 433**]/15/-8
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Crackles : b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm, skin breakdown over abdomen
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed, opens
   eyes to voice, does not make eye contact or track
   [**Name (NI) 610**] / Radiology
   7.7 g/dL
   26 K/uL
   209 mg/dL
   3.1 mg/dL
   15 mEq/L
   3.7 mEq/L
   87 mg/dL
   121 mEq/L
   151 mEq/L
   22.9 %
   8.5 K/uL
        [image002.jpg]
                            [**2145-10-30**]  01:13 PM
                            [**2145-10-31**]  12:19 AM
                            [**2145-11-1**]  03:10 AM
                            [**2145-11-1**]  04:01 PM
                            [**2145-11-1**]  06:24 PM
                             [**2145-11-2**]  04:33 AM
                             [**2145-11-2**]  05:30 PM
                             [**2145-11-3**]  03:16 AM
                             [**2145-11-4**]  01:53 AM
                             [**2145-11-4**]  02:03 AM
   WBC
   4.2
   6.0
   7.4
   8.0
   7.9
   7.5
   8.5
   Hct
   20.5
   24.0
   21.1
   23.8
   22.2
   24.2
   22.9
   Plt
   38
   37
   36
   28
   26
   17
   26
   Cr
   1.6
   2.0
   2.4
   2.5
   2.6
   2.5
   2.8
   3.1
   TropT
   0.12
   0.12
   TCO2
   15
   Glucose
   126
   248
   177
   298
   [**Telephone/Fax (2) 9624**]09
   Other [**Telephone/Fax (2) **]: PT / PTT / INR:22.2/37.2/2.1, CK / CKMB /
   Troponin-T:20//0.12, ALT / AST:40/60, Alk Phos / T Bili:97/9.9,
   Fibrinogen:138 mg/dL, Lactic Acid:2.7 mmol/L, Albumin:3.6 g/dL, LDH:238
   IU/L, Ca++:11.5 mg/dL, Mg++:3.1 mg/dL, PO4:6.6 mg/dL
   Assessment and Plan
 HYPERGLYCEMIA
 HEPATORENAL SYNDROME
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 COAGULOPATHY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   Cirrhosis:  on transplant list  still enchephalopathic/delirum, but
   somewhat improved today.  Opening eyes, but not tracking.
   Acute renal failure:  will get HD today.  HRS - on octreatide and
   midodrine
   hypernatremia:  continue free water flushes and will correct with HD.
   septic shock: now off pressors
   yeast in urine:  can start antifungals.
   HAP:  will decide on empiric course of dapto/cipro/cefepime of 7 days.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2145-11-3**] 10:33 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2145-10-30**] 01:55 PM
   Multi Lumen - [**2145-10-30**] 01:56 PM
   Dialysis Catheter - [**2145-11-3**] 04:20 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2145-11-05 12:34:00 Physician Attending Progress Note
Chief Complaint: delirium/encephalopathy
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo with cirrhosis, HRS
   24 Hour Events:
 EKG - At [**2145-11-4**] 10:30 AM
 ULTRASOUND - At [**2145-11-4**] 04:30 PM
 EKG - At [**2145-11-4**] 05:47 PM
 EKG - At [**2145-11-5**] 06:26 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2145-11-4**] 12:15 PM
   Micafungin - [**2145-11-4**] 01:30 PM
   Ciprofloxacin - [**2145-11-5**] 12:00 AM
   Cefipime - [**2145-11-5**] 09:38 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-11-4**] 04:30 PM
   Other medications:
   lactulose hydrocort
   cefepime
   daptomycin
   cipro
   midodrine
   micafungin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-11-5**] 12:33 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.1
C (96.9
   HR: 52 (49 - 73) bpm
   BP: 138/57(83) {95/37(54) - 143/65(90)} mmHg
   RR: 10 (10 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 86.4 kg (admission): 86.8 kg
   Height: 70 Inch
   CVP: 12 (11 - 16)mmHg
   Total In:
                                                                  3,699 mL
                                                                  1,758 mL
   PO:
   TF:
                                                                    351 mL
                                                                    186 mL
   IVF:
                                                                    928 mL
                                                                    362 mL
   Blood products:
                                                                    550 mL
                                                                    200 mL
   Total out:
                                                                  3,733 mL
                                                                     47 mL
   Urine:
                                                                    133 mL
                                                                     47 mL
   NG:
   Stool:
                                                                  1,400 mL
   Drains:
   Balance:
                                                                    -34 mL
                                                                  1,711 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.41/30/116/18/-3
   Physical Examination
   Eyes / Conjunctiva: PERRL, icteric
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: No(t) Unable to stand
   Skin:  Warm, Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Movement: Not assessed, Tone: Not assessed, opens
   eyes to voice.  does not track/interact
   Labs / Radiology
   8.5 g/dL
   25 K/uL
   205 mg/dL
   2.7 mg/dL
   18 mEq/L
   3.4 mEq/L
   71 mg/dL
   115 mEq/L
   148 mEq/L
   24.3 %
   6.8 K/uL
        [image002.jpg]
                             [**2145-11-2**]  05:30 PM
                             [**2145-11-3**]  03:16 AM
                             [**2145-11-4**]  01:53 AM
                             [**2145-11-4**]  02:03 AM
                             [**2145-11-4**]  11:02 AM
                             [**2145-11-4**]  03:33 PM
                             [**2145-11-4**]  07:18 PM
                             [**2145-11-4**]  07:52 PM
                             [**2145-11-5**]  03:11 AM
                             [**2145-11-5**]  03:25 AM
   WBC
   7.5
   8.5
   8.5
   6.8
   Hct
   24.2
   22.9
   24.5
   24.3
   Plt
   17
   26
   29
   25
   Cr
   2.5
   2.8
   3.1
   1.8
   2.7
   TropT
   0.39
   0.54
   0.64
   0.71
   TCO2
   15
   22
   20
   Glucose
   221
   247
   209
   117
   205
   Other labs: PT / PTT / INR:30.1/42.9/3.0, CK / CKMB /
   Troponin-T:27/5/0.71, ALT / AST:44/66, Alk Phos / T Bili:92/13.0,
   Fibrinogen:105 mg/dL, Lactic Acid:2.9 mmol/L, Albumin:3.7 g/dL, LDH:261
   IU/L, Ca++:10.2 mg/dL, Mg++:2.9 mg/dL, PO4:5.4 mg/dL
   Microbiology: C. diff negative X 2
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FUNGAL INFECTION, OTHER
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPERGLYCEMIA
 HEPATORENAL SYNDROME
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 COAGULOPATHY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ID:  on dapto/cefepime/cipro/micafungin
   delirium/encephalopathy:  on lactulose/rifax,  no improvement
   renal failure:  stop HRS treatment.  Now on HD.
   coagulopathy:  will discuss with liver if FFP is ok for blood oozing
   from fem HD line.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2145-11-5**] 11:01 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2145-10-30**] 01:55 PM
   Multi Lumen - [**2145-10-30**] 01:56 PM
   Dialysis Catheter - [**2145-11-3**] 04:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2145-11-06 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - NGT blood (~50cc) with clots.  Stool still brown.  Decrease in Hct 24
   -> 22 overnight in the setting of having 3L fluid removed during HD
   yesterday.  Started Octreotide drip with bolus, 2 units FFP, on [**Hospital1 **] ppi
   - d/c'ed Cefepime, continued Cipro for prior h/o SBP (ppx)
   - Decreased lactulose dose yesterday (too much stool)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2145-11-4**] 12:15 PM
   Micafungin - [**2145-11-4**] 01:30 PM
   Cefipime - [**2145-11-5**] 09:38 AM
   Ciprofloxacin - [**2145-11-6**] 02:00 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-11-6**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.2
C (97.1
   HR: 57 (52 - 75) bpm
   BP: 115/52(71) {108/48(65) - 138/64(87)} mmHg
   RR: 21 (10 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 91.2 kg (admission): 86.8 kg
   Height: 70 Inch
    CVP: 12 (12 - 12)mmHg
   Total In:
                                                                  3,574 mL
                                                                  1,773 mL
   PO:
   TF:
                                                                    654 mL
                                                                    154 mL
   IVF:
                                                                    420 mL
                                                                    174 mL
   Blood products:
                                                                    800 mL
                                                                    625 mL
   Total out:
                                                                  4,264 mL
                                                                    757 mL
   Urine:
                                                                     64 mL
                                                                      7 mL
   NG:
   Stool:
                                                                  1,200 mL
   Drains:
   Balance:
                                                                   -690 mL
                                                                  1,016 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   GEN: NAD, responds to painful stimuli, unresponsive to verbal stimuli.
   CV: RRR, GII/VI murmer at apex and LSB
   PULM: Rales R>L
   ABD: +BS, distended, mildly tense abdomen, non-tender.
   EXTR: 2+ pedal edema.
   SKIN: jaundiced throughout, face flushed, spider angiomata.
   Labs / Radiology
   16 K/uL
   7.8 g/dL
   170 mg/dL
   2.2 mg/dL
   24 mEq/L
   2.8 mEq/L
   48 mg/dL
   107 mEq/L
   143 mEq/L
   22.3 %
   7.2 K/uL
        [image002.jpg]
                             [**2145-11-3**]  03:16 AM
                             [**2145-11-4**]  01:53 AM
                             [**2145-11-4**]  02:03 AM
                             [**2145-11-4**]  11:02 AM
                             [**2145-11-4**]  03:33 PM
                             [**2145-11-4**]  07:18 PM
                             [**2145-11-4**]  07:52 PM
                             [**2145-11-5**]  03:11 AM
                             [**2145-11-5**]  03:25 AM
                             [**2145-11-6**]  01:04 AM
   WBC
   7.5
   8.5
   8.5
   6.8
   7.2
   Hct
   24.2
   22.9
   24.5
   24.3
   22.3
   Plt
   17
   26
   29
   25
   16
   Cr
   2.8
   3.1
   1.8
   2.7
   2.2
   TropT
   0.39
   0.54
   0.64
   0.71
   TCO2
   15
   22
   20
   Glucose
   247
   209
   117
   205
   170
   Other labs: PT / PTT / INR:28.7/47.5/2.8, CK / CKMB /
   Troponin-T:27/5/0.71, ALT / AST:44/62, Alk Phos / T Bili:84/13.7,
   Fibrinogen:102 mg/dL, Lactic Acid:2.9 mmol/L, Albumin:4.1 g/dL, LDH:261
   IU/L, Ca++:9.1 mg/dL, Mg++:2.4 mg/dL, PO4:3.5 mg/dL
   Microbiology: [**11-2**]
   ASPERGILLUS GALACTOMANNAN ANTIGEN negative
   B-GLUCAN
   ----
   Fungitell (tm) Assay for (1,3)-B-D-Glucans
   Results                                 Reference Ranges
   -------                                 ----------------
   99  pg/mL                               Negative       Less than 60
   pg/mL
                                           Indeterminate  60 - 79 pg/mL
                                           Positive       Greater than or
   equal to
                                                          80 pg/mL
   Note: The Fungitell assay is indicated for presumptive diagnosis of
   fungal
   infection. it should be used in conjunction with other diagnostic
   procedures.
   The Fungitell assay does not detect certain fungal species such as the
   genus Cryptococcus, which produces very low levels of ([**12-5**])-B-D-glucan.
   This assay also does not detect the Zygomycetes, such as Absidia,
   Mucor, and Rhizopus, which are not known to produce ([**12-5**])-B-D-glucan.
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FUNGAL INFECTION, OTHER
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPERGLYCEMIA
 HEPATORENAL SYNDROME
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 COAGULOPATHY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   A 57 year old gentleman with ESLD (on transplant list) admitted 59 days
   earlier for upper GI bleeding now re-readmitted to the ICU for
   hypothermia and hypotension and continuing encephalopathy.
   # ST Depressions:  Concerning for lateral ischemia, rising troponins in
   the setting of renal failure.  Currently  not on ACS medications,
   patient unable to communicate chest pain but HR in 60
s, SBP 110
   - Likely stable demand ischemia in the setting of Hct 22.  Transfuse 2
   units PRBC for goal Hct 28-30.
   - Check PM Hct
   - Repeat EKG daily to ensure patient is not evolving
   - Consider consulting cardiology if EKGs show evolution.  Troponins
   unreliable in setting of renal failure.
   #. Sepsis: The patient has hypotension, hypothermia and borderline
   leukopenia without an obvious source of infection.  During this
   hospitalization he has had bacteremia, pneumonia and a urinary tract
   infection. Peritonitis is also another possible source. His baseline
   blood pressures are 90s systolic. Concern for under-repletion of
   steroids given weak [**Last Name (un) **] stim, infection or worsening hypotension from
   liver disease.  Hypotension could also be from cardiogenic source, but
   cardiac enzymes stable, no longer trending.  Completed 7 day course of
   Dapto/Cipro/Cefepime for broad coverage empiric treatment.  Off
   vasopressin and achieving goal MAP >60.  Continued Cipro 250mg [**Hospital1 **]
   prophylactic dose for prior history of SBP.
   - Continue Micafungin fungal coverage for yeast in urine, per
   hepatology.  Today is day [**2-2**].  D/C tomorrow.
   - Continue Cipro at 250mg po daily for prophylaxis for history of SBP
   in the past.
   - Continue stress dose steroids, plan to taper tomorrow to half dose
   for 3 days, then taper again.
   - Discontinue Midodrine 15 tid and Octreotide
   - Fungal markers, micolytic cultures pending
   - CVP monitoring --> within goal of [**11-15**] CVP
   - f/u Blood cultures --> f/u
   - Warming with Bair Hugger as needed
   - Hold nadolol
   #. Altered Mental Status: Encephalopathy, waxing and [**Doctor Last Name 282**] with other
   clinical parameters.
   - Continue Rifaximin, continue lactulose at decreased dose, as pt with
   volumous stool
   - f/u Hepatology recs
   #. Acute Renal Failure: Cr elevated to 2.0 from 0.9 baseline and
   trending upwards.  Hepatorenal vs. pre-renal vs. ATN while
   hypotensive.  Was treated with 3 day course of Octreotide, Midodrine,
   Albumin for hepatorenal syndrome treatment (day 3 today).
   - HD planned for today and Monday
   - Recheck K+ early afternoon for K+ repletion in setting of renal
   failure
   - Daily LFTs, albumin, coags per liver
   - Discontinued octreotide and midodrine per liver
   - Renal to correct lytes with HD; f/u renal recs
   # Anemia & Thrombocytopenia: Hematocrit stable
 no obvious source of
   bleeding. Question underproduction rather than bleeding. s/p last
   transfusion on [**11-2**].  Hematocrit decreased [**11-6**] in setting of elevated
   INR from liver failure.  R Femoral line also with slow bleeding.
   - 2 units PRBC in setting of likely demand ischemia, as above.
   - Repeat Hct this afternoon.
   - Discuss removal of femoral line following dialysis with Renal,
   ensuring another line is placed prior to pulling femoral line
   - maintain active T+S
   - FFP as needed to correct INR if pt actively bleeding
   - Liver was notified of correction of INR with FFP for purposes of MELD
   score calculation
   - hold nadolol for now
   - re-check peripheral smear
   - follow daily cbc, coags, fibrinogen
   # Hypernatremia:  improved
   - Continue tube feeds and free water flushes, currently at 300 q4hrs.
   Decrease free water to 200cc q4h given resolution of hypernatremia.
   # ESLD: Currently listed but inactive, MELDs rising.
   - f/u Hepatology recs
   - Lactulose/Rifaximin
   - Completed 3 day course of albumin; hold for now
   - Monitor daily LFT
 stable today
   - treatment for hepatorenal syndrome as above
   # DM2: No longer on insulin drip; watch sugars today and then adjust
   glargine and SS as needed.  Hyperglycemia on D5W, switched to
 NS for
   better sugar control.
   -Adjust sliding scale as needed
   # Hypercalcemia: Believed due to renal failure
   - to be taken into account during HD today
   # ?Dropped beats on telemetry
   - replete lytes prn, to be done at HD today, per renal
   - check EKG this morning
   .
   FEN: Tube feeds novasource renal
 STOP tube feeds today, replete
   electrolytes
   Prophylaxis: Boots, Pantoprazole
   Access:  LIJ Triple lumen, art line, femoral line.
   Code:  Full (Confirmed)
   Communication: Patient Wife [**Name (NI) 1022**]
   [**Telephone/Fax (1) 8510**] ([**Name2 (NI) **])
   [**Telephone/Fax (1) 8511**] (cell)
   [**Telephone/Fax (1) 8512**] (son - [**Name (NI) **])
   Disposition: ICU
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2145-11-5**] 11:01 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2145-10-30**] 01:55 PM
   Multi Lumen - [**2145-10-30**] 01:56 PM
   Dialysis Catheter - [**2145-11-3**] 04:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-11-06 10:43:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yr old HD 66, ARF, ESLD on transplant list, readmitted for
   hypotherm, hypotension, encephalopathy. No infectious source - tx with
   dapto, cipro, cef
   24 Hour Events:
   Yesterday - cefepime and dapto d/c'd.
   Serosang fluid from NG
   Started on octreotide drip mostly prophylacticly, 2 u FFP
   HD yesterday, 3 L fluid removal
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2145-11-4**] 12:15 PM
   Micafungin - [**2145-11-4**] 01:30 PM
   Cefipime - [**2145-11-5**] 09:38 AM
   Ciprofloxacin - [**2145-11-6**] 02:00 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-11-6**] 10:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 35.8
C (96.5
   HR: 54 (51 - 75) bpm
   BP: 132/59(80) {108/48(65) - 138/64(87)} mmHg
   RR: 21 (10 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 91.2 kg (admission): 86.8 kg
   Height: 70 Inch
   CVP: 8 (8 - 8)mmHg
   Total In:
                                                                  3,574 mL
                                                                  2,290 mL
   PO:
   TF:
                                                                    654 mL
                                                                    253 mL
   IVF:
                                                                    420 mL
                                                                    261 mL
   Blood products:
                                                                    800 mL
                                                                    625 mL
   Total out:
                                                                  4,264 mL
                                                                    759 mL
   Urine:
                                                                     64 mL
                                                                      9 mL
   NG:
   Stool:
                                                                  1,200 mL
   Drains:
   Balance:
                                                                   -690 mL
                                                                  1,531 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : minimal at left base)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed, oozing of fem HD line
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed, Responds to pain
   Labs / Radiology
   7.6 g/dL
   16 K/uL
   170 mg/dL
   2.2 mg/dL
   24 mEq/L
   3.4 mEq/L
   48 mg/dL
   107 mEq/L
   143 mEq/L
   21.0 %
   7.2 K/uL
        [image002.jpg]
                             [**2145-11-4**]  01:53 AM
                             [**2145-11-4**]  02:03 AM
                             [**2145-11-4**]  11:02 AM
                             [**2145-11-4**]  03:33 PM
                             [**2145-11-4**]  07:18 PM
                             [**2145-11-4**]  07:52 PM
                             [**2145-11-5**]  03:11 AM
                             [**2145-11-5**]  03:25 AM
                             [**2145-11-6**]  01:04 AM
                             [**2145-11-6**]  07:50 AM
   WBC
   8.5
   8.5
   6.8
   7.2
   7.2
   Hct
   22.9
   24.5
   24.3
   22.3
   21.0
   Plt
   26
   29
   25
   16
   16
   Cr
   3.1
   1.8
   2.7
   2.2
   TropT
   0.39
   0.54
   0.64
   0.71
   TCO2
   15
   22
   20
   Glucose
   [**Telephone/Fax (3) 9682**]70
   Other labs: PT / PTT / INR:28.7/47.5/2.8, CK / CKMB /
   Troponin-T:27/5/0.71, ALT / AST:44/62, Alk Phos / T Bili:84/13.7,
   Fibrinogen:102 mg/dL, Lactic Acid:2.9 mmol/L, Albumin:4.1 g/dL, LDH:261
   IU/L, Ca++:9.1 mg/dL, Mg++:2.4 mg/dL, PO4:3.5 mg/dL
   Fluid analysis / Other labs: Asperg galactomannan neg
   Beta glucan negative
   ECG: Repeat EKG reviewed - T inv V3, unchanged
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FUNGAL INFECTION, OTHER
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPERGLYCEMIA
 HEPATORENAL SYNDROME
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 COAGULOPATHY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   Sepsis:  on cipro sbp proph / micafungin d 3 for [**Last Name (LF) 1892**], [**First Name3 (LF) 116**] d/c. Beta
   glucan positive but unsure source if any.
   Delirium/encephalopathy:  on lactulose/rifax, no sign improvement,
   opens eyes but no purposeful movements.
   Renal failure:  next HD Monday. ~ anuric
   Coagulopathy:  FFP PRN for intractable oozing from fem HD line or
   bleeding. Will try pressure dressing for now. Octreotide started
   prophylactically given known varices. On PPI
   EKG changes: MB was negative, ST depression and T inversions seems
   stable. Will keep Hct higher - transfuse [**12-4**] units PRBC
   Check CXR today.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2145-11-5**] 11:01 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2145-10-30**] 01:55 PM
   Multi Lumen - [**2145-10-30**] 01:56 PM
   Dialysis Catheter - [**2145-11-3**] 04:20 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2145-11-07 07:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: ESLD/hypothermia and hypotension
   24 Hour Events:
 EKG - At [**2145-11-6**] 08:29 AM
   HD happened today, next session Monday
   femoral line still oozing (HD line)
   given 2 units blood
   K needed aggressive repleting (was 2.8 in the AM)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2145-11-4**] 12:15 PM
   Micafungin - [**2145-11-4**] 01:30 PM
   Cefipime - [**2145-11-5**] 09:38 AM
   Ciprofloxacin - [**2145-11-7**] 02:30 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-11-7**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-11-7**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.4
   HR: 69 (50 - 69) bpm
   BP: 116/54(75) {113/53(73) - 138/67(89)} mmHg
   RR: 20 (10 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.5 kg (admission): 86.8 kg
   Height: 70 Inch
    CVP: 8 (8 - 8)mmHg
   Total In:
                                                                  3,935 mL
                                                                    894 mL
   PO:
   TF:
                                                                    220 mL
   IVF:
                                                                    557 mL
                                                                    114 mL
   Blood products:
                                                                  1,263 mL
                                                                    300 mL
   Total out:
                                                                  4,544 mL
                                                                      5 mL
   Urine:
                                                                     19 mL
                                                                      5 mL
   NG:
   Stool:
                                                                  1,775 mL
   Drains:
   Balance:
                                                                   -609 mL
                                                                    889 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   27 K/uL
   9.9 g/dL
   130 mg/dL
   1.5 mg/dL
   21 mEq/L
   4.5 mEq/L
   37 mg/dL
   109 mEq/L
   140 mEq/L
   27.9 %
   8.4 K/uL
        [image002.jpg]
                             [**2145-11-4**]  02:03 AM
                             [**2145-11-4**]  11:02 AM
                             [**2145-11-4**]  03:33 PM
                             [**2145-11-4**]  07:18 PM
                             [**2145-11-4**]  07:52 PM
                             [**2145-11-5**]  03:11 AM
                             [**2145-11-5**]  03:25 AM
                             [**2145-11-6**]  01:04 AM
                             [**2145-11-6**]  07:50 AM
                             [**2145-11-7**]  12:26 AM
   WBC
   8.5
   6.8
   7.2
   7.2
   8.4
   Hct
   24.5
   24.3
   22.3
   21.0
   27.9
   Plt
   29
   25
   16
   16
   27
   Cr
   1.8
   2.7
   2.2
   1.5
   TropT
   0.54
   0.64
   0.71
   TCO2
   15
   22
   20
   Glucose
   117
   205
   170
   130
   Other labs: PT / PTT / INR:29.5/44.9/2.9, CK / CKMB /
   Troponin-T:27/5/0.71, ALT / AST:47/68, Alk Phos / T Bili:87/16.3,
   Fibrinogen:117 mg/dL, Lactic Acid:2.9 mmol/L, Albumin:4.1 g/dL, LDH:280
   IU/L, Ca++:9.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Microbiology: Time Taken Not Noted     Log-In Date/Time: [**2145-10-31**] 8:54
   am
         URINE
                               **FINAL REPORT [**2145-11-1**]**
      URINE CULTURE (Final [**2145-11-1**]):
         YEAST.    10,000-100,000 ORGANISMS/ML.
   Time Taken Not Noted     Log-In Date/Time: [**2145-10-18**] 5:17 am
         URINE      Source: CVS.
                               **FINAL REPORT [**2145-10-21**]**
      URINE CULTURE (Final [**2145-10-21**]):
         ENTEROCOCCUS SP..    10,000-100,000 ORGANISMS/ML..
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                ENTEROCOCCUS SP.
                                |
   AMPICILLIN------------  =>32 R
   LINEZOLID-------------     2 S
   NITROFURANTOIN--------   128 R
   TETRACYCLINE----------  =>16 R
   VANCOMYCIN------------  =>32 R
   Assessment and Plan
   A 57 year old gentleman with ESLD (on transplant list) admitted 59 days
   earlier for upper GI bleeding now re-readmitted to the ICU for
   hypothermia and hypotension and continuing encephalopathy.
   .
   # ST Depressions:  Concerning for lateral ischemia, rising troponins in
   the setting of renal failure.  Currently  not on ACS medications,
   patient unable to communicate chest pain but HR in 60
s, SBP 110
   - Likely stable demand ischemia in the setting of low Hct.  Transfuse 2
   units PRBC for goal Hct 28-30.  This morning was 28; transfuse 1 u
   today
   - Repeat EKG daily to ensure patient is not evolving
   - Consider consulting cardiology if EKGs show evolution.  Troponins
   unreliable in setting of renal failure.
   .
   #. Sepsis: The patient has hypotension, hypothermia and borderline
   leukopenia without an obvious source of infection.  During this
   hospitalization he has had bacteremia, pneumonia and a urinary tract
   infection. Peritonitis is also another possible source. His baseline
   blood pressures are 90s systolic. Concern for under-repletion of
   steroids given weak [**Last Name (un) **] stim, infection or worsening hypotension from
   liver disease.  Hypotension could also be from cardiogenic source, but
   cardiac enzymes stable, no longer trending.  Completed 7 day course of
   Dapto/Cipro/Cefepime for broad coverage empiric treatment.  Off
   vasopressin and achieving goal MAP >60.  Continued Cipro 250mg [**Hospital1 **]
   prophylactic dose for prior history of SBP.
   - Continue Micafungin fungal coverage for yeast in urine, per
   hepatology.  Last day is today.
   - Continue Cipro at 250mg po daily for prophylaxis for history of SBP
   in the past.
   - Continue stress dose steroids, plan to taper [**11-7**] to half dose for 3
   days, then taper again.
   - Discontinue Midodrine 15 tid and Octreotide
   - Fungal markers, micolytic cultures pending
   - CVP monitoring --> within goal of [**11-15**] CVP
   - f/u Blood cultures --> f/u
   - Warming with Bair Hugger as needed
   - Hold nadolol
   .
   #. Altered Mental Status: Encephalopathy, waxing and [**Doctor Last Name 282**] with other
   clinical parameters.
   - Continue Rifaximin, continue lactulose at decreased dose, as pt with
   volumous stool
   - f/u Hepatology recs
   .
   #. Acute Renal Failure: Cr elevated to 2.0 from 0.9 baseline and
   trending upwards.  Hepatorenal vs. pre-renal vs. ATN while
   hypotensive.  Was treated with 3 day course of Octreotide, Midodrine,
   Albumin for hepatorenal syndrome treatment.
   - HD planned for Monday
   - Recheck K+ early afternoon for K+ repletion in setting of renal
   failure
   - Daily LFTs, albumin, coags per liver
   - Discontinued octreotide and midodrine per liver
   - Renal to correct lytes with HD; f/u renal recs
   .
   # Anemia & Thrombocytopenia: Hematocrit stable
 no obvious source of
   bleeding. Question underproduction rather than bleeding. s/p last
   transfusion on [**11-2**].  Hematocrit decreased [**11-6**] in setting of elevated
   INR from liver failure.  R Femoral line also with slow bleeding.
   - 1 units PRBC in setting of likely demand ischemia, as above.
   - Repeat Hct this afternoon.
   - Discuss removal of femoral line following dialysis with Renal,
   ensuring another line is placed prior to pulling femoral line
   - maintain active T+S
   - FFP as needed to correct INR if pt actively bleeding
   - Liver was notified of correction of INR with FFP for purposes of MELD
   score calculation
   - hold nadolol for now
   - re-check peripheral smear
   - follow daily cbc, coags, fibrinogen
   .
   # Hypernatremia:  improved
   - Continue tube feeds and free water flushes, currently at 300 q4hrs.
   Decrease free water to 200cc q4h given resolution of hypernatremia.
   .
   # ESLD: Currently listed but inactive, MELDs rising.
   - f/u Hepatology recs
   - Lactulose/Rifaximin
   - Completed 3 day course of albumin; hold for now
   - Monitor daily LFT
 stable today
   - treatment for hepatorenal syndrome as above
   .
   # DM2: No longer on insulin drip; watch sugars today and then adjust
   glargine and SS as needed.  Hyperglycemia on D5W, switched to
 NS for
   better sugar control.
   -Adjust sliding scale as needed
   .
   # Hypercalcemia: Believed due to renal failure
   - to be taken into account during HD
   .
   # ?Dropped beats on telemetry
   - replete lytes prn, to be done at HD today, per renal
   - check EKG this morning
   .
   FEN: Tube feeds novasource renal
 STOP tube feeds today, replete
   electrolytes
   Prophylaxis: Boots, Pantoprazole
   Access:  LIJ Triple lumen, art line, femoral line.
   Code:  Full (Confirmed)
   Communication: Patient Wife [**Name (NI) 1022**]
   [**Telephone/Fax (1) 8510**] ([**Name2 (NI) **])
   [**Telephone/Fax (1) 8511**] (cell)
   [**Telephone/Fax (1) 8512**] (son - [**Name (NI) **])
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2145-10-30**] 01:55 PM
   Multi Lumen - [**2145-10-30**] 01:56 PM
   Dialysis Catheter - [**2145-11-3**] 04:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-11-07 13:16:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   ARF, Hypotension, hypothermia, cirrhosis, aniemia, acidosis,
   coagulopathy, ECG changes
   24 Hour Events:
 EKG - At [**2145-11-6**] 08:29 AM
   K repleted.
   Got HD
   Transfused 2 units PRBC, appropriate increase in Hct
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   [**Year (4 digits) 9702**] - [**2145-11-4**] 01:30 PM
   Cefipime - [**2145-11-5**] 09:38 AM
   Ciprofloxacin - [**2145-11-7**] 02:30 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-11-7**] 04:00 AM
   Other medications:
   Hydrocort 25 q6h, H2O boluses, lactulose
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-11-7**] 01:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.4
   HR: 69 (52 - 72) bpm
   BP: 126/56(78) {113/53(73) - 138/67(89)} mmHg
   RR: 15 (10 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.5 kg (admission): 86.8 kg
   Height: 70 Inch
           Total In:
                                                                  3,935 mL
                                                                  1,096 mL
   PO:
           TF:
                                                                    220 mL
   IVF:
                                                                    557 mL
                                                                    156 mL
   Blood products:
                                                                  1,263 mL
                                                                    300 mL
   Total out:
                                                                  4,544 mL
                                                                      5 mL
   Urine:
                                                                     19 mL
                                                                      5 mL
   NG:
   Stool:
                                                                  1,775 mL
   Drains:
   Balance:
                                                                   -609 mL
                                                                  1,091 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present),
   (Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   ant/lat)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm, Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, No(t) Sedated, Tone: Not
   assessed, tracks, opens eyes, grunts at times
   Labs / Radiology
   9.9 g/dL
   27 K/uL
   130 mg/dL
   1.5 mg/dL
   21 mEq/L
   4.5 mEq/L
   37 mg/dL
   109 mEq/L
   140 mEq/L
   27.9 %
   8.4 K/uL
        [image002.jpg]
                             [**2145-11-4**]  02:03 AM
                             [**2145-11-4**]  11:02 AM
                             [**2145-11-4**]  03:33 PM
                             [**2145-11-4**]  07:18 PM
                             [**2145-11-4**]  07:52 PM
                             [**2145-11-5**]  03:11 AM
                             [**2145-11-5**]  03:25 AM
                             [**2145-11-6**]  01:04 AM
                             [**2145-11-6**]  07:50 AM
                             [**2145-11-7**]  12:26 AM
   WBC
   8.5
   6.8
   7.2
   7.2
   8.4
   Hct
   24.5
   24.3
   22.3
   21.0
   27.9
   Plt
   29
   25
   16
   16
   27
   Cr
   1.8
   2.7
   2.2
   1.5
   TropT
   0.54
   0.64
   0.71
   TCO2
   15
   22
   20
   Glucose
   117
   205
   170
   130
   Other labs: PT / PTT / INR:29.5/44.9/2.9, CK / CKMB /
   Troponin-T:27/5/0.71, ALT / AST:47/68, Alk Phos / T Bili:87/16.3,
   Fibrinogen:117 mg/dL, Lactic Acid:2.9 mmol/L, Albumin:3.5 g/dL, LDH:280
   IU/L, Ca++:9.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Microbiology: urine cx grew yeast
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FUNGAL INFECTION, OTHER
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPERGLYCEMIA
 HEPATORENAL SYNDROME
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 COAGULOPATHY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   Sepsis:  on cipro for SBP proph / got 2 days of [**Last Name (LF) **], [**First Name3 (LF) 116**] d/c.
   Beta glucan positive but unsure source if any.
   Delirium/encephalopathy:  on lactulose/rifax, some signs of improved
   MS, opens eyes, seems to track, no purposeful mvts.
   Renal failure:  next HD Monday. ~ anuric
   Coagulopathy:  FFP PRN for intractable oozing from fem HD line or
   bleeding. Had pressure dressing yesterday. Octreotide started
   prophylactically given known varices. On PPI
   Anemia due to blood loss
 transfused yesterday, appropriate increase
   in Hct.
   EKG changes: MB was negative, ST depression V3, TWI seem stable. Will
   keep Hct higher ~28 - transfuse [**12-4**] units PRBC
   ICU Care
   Nutrition:  restart TFs
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2145-10-30**] 01:55 PM
   Multi Lumen - [**2145-10-30**] 01:56 PM
   Dialysis Catheter - [**2145-11-3**] 04:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   Communication: ICU consent signed Comments:  wife [**Name (NI) 1022**]
   [**Name (NI) 129**] status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2145-11-08 06:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: hypothermia, hypotension, AMS
   24 Hour Events:
   -Afternoon Hct dropped to 25; patient transfused with 1 unit.
   - cardiology recommendations for lateral ST segment depression and
   troponin increase. No note left by 1800
   - needs platelets and FFP - 2 U FFP and 1 U platelets and 1 U blood
   given
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2145-11-5**] 09:38 AM
   Ciprofloxacin - [**2145-11-7**] 10:15 PM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-11-7**] 03:59 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-11-8**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.9
C (96.7
   HR: 73 (63 - 75) bpm
   BP: 115/47(68) {108/46(64) - 131/61(83)} mmHg
   RR: 11 (8 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.5 kg (admission): 86.8 kg
   Height: 70 Inch
             Total In:
                                                                  2,241 mL
                                                                    851 mL
   PO:
             TF:
                                                                    204 mL
                                                                    264 mL
   IVF:
                                                                    332 mL
                                                                     87 mL
   Blood products:
                                                                    625 mL
   Total out:
                                                                    819 mL
                                                                     12 mL
   Urine:
                                                                     19 mL
                                                                     12 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,422 mL
                                                                    839 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   22 K/uL
   9.9 g/dL
   189 mg/dL
   2.4 mg/dL
   21 mEq/L
   4.2 mEq/L
   64 mg/dL
   109 mEq/L
   140 mEq/L
   28.3 %
   10.9 K/uL
        [image002.jpg]
                             [**2145-11-4**]  03:33 PM
                             [**2145-11-4**]  07:18 PM
                             [**2145-11-4**]  07:52 PM
                             [**2145-11-5**]  03:11 AM
                             [**2145-11-5**]  03:25 AM
                             [**2145-11-6**]  01:04 AM
                             [**2145-11-6**]  07:50 AM
                             [**2145-11-7**]  12:26 AM
                             [**2145-11-7**]  03:00 PM
                             [**2145-11-8**]  02:07 AM
   WBC
   6.8
   7.2
   7.2
   8.4
   10.9
   Hct
   24.3
   22.3
   21.0
   27.9
   25.2
   28.3
   Plt
   25
   16
   16
   27
   22
   Cr
   1.8
   2.7
   2.2
   1.5
   2.4
   TropT
   0.54
   0.64
   0.71
   TCO2
   22
   20
   Glucose
   117
   205
   170
   130
   189
   Other labs: PT / PTT / INR:28.1/50.0/2.8, CK / CKMB /
   Troponin-T:27/5/0.71, ALT / AST:50/66, Alk Phos / T Bili:74/14.1,
   Fibrinogen:117 mg/dL, Lactic Acid:2.9 mmol/L, Albumin:3.5 g/dL, LDH:280
   IU/L, Ca++:9.6 mg/dL, Mg++:2.2 mg/dL, PO4:4.9 mg/dL
   Imaging: [**2145-11-6**] CXR: The NG tube tip is in the stomach. The right
   internal jugular line tip is at  the level of the junction of the
   brachiocephalic vein and SVC. Extensive
   parenchymal opacities are bilateral and unchanged compared to the prior
   study.
   No change in the cardiomediastinal silhouette is demonstrated.
   Microbiology: C. Diff [**11-2**] and 12/ 2 neg
   Bcxrs [**10-30**] x2 and [**10-31**] neg
   Assessment and Plan
   Assessment and Plan
   A 57 year old gentleman with ESLD (on transplant list) admitted 59 days
   earlier for upper GI bleeding now re-readmitted to the ICU for
   hypothermia and hypotension and continuing encephalopathy
   .
   #. Sepsis: The patient has hypotension, hypothermia and borderline
   leukopenia without an obvious current source of infection.  During this
   hospitalization he has had bacteremia, pneumonia and a urinary tract
   infection. Peritonitis is also another possible source. His baseline
   blood pressures are 90s systolic. Concern for under-repletion of
   steroids given weak [**Last Name (un) **] stim test, infection or worsening hypotension
   from liver disease.  Hypotension could also be from cardiogenic source,
   but cardiac enzymes stable, no longer trending.  Completed 7 day course
   of Dapto/Cipro/Cefepime for broad coverage empiric treatment.  Off
   vasopressin and achieving goal MAP >60.  Continued Cipro 250mg [**Hospital1 **]
   prophylactic dose for prior history of SBP.
   - Micagfungin recommended by hepatology and questioning of adequate
   doses.  5/5 doses likely given.  Due to low suspicion for fungal
   infection, stopped medication at presumed 5 doses.
   - Continue Cipro at 250mg po daily for prophylaxis for history of SBP
   in the past.
   - Continue on current stress-dose steroid dose until [**11-10**] and then
   decrease by
 and continue to wean by
 q 3 days.
   - Discontinue Midodrine 15 tid and Octreotide
   - continue to f/u pending cultures and culture as needed for fevers and
   CV decompensation
   - Warming with Bair Hugger as needed
   - Hold nadolol
   .
   # ST Depressions:  Concerning for lateral ischemia, rising troponins in
   the setting of renal failure.  Currently  not on ACS medications,
   patient unable to communicate chest pain but HR in 60
s, SBP 110
   - Likely stable demand ischemia in the setting of low Hct.  Transfuse 2
   units PRBC for goal Hct 28-30.
   - Repeat EKG daily to ensure patient is not evolving; -Troponins
   unreliable in setting of renal failure.
   - f/u cardiology recs - no note left by 1800 yesterday.
   .
   #. Altered Mental Status: Encephalopathy, waxing and [**Doctor Last Name 282**] with other
   clinical parameters.
   - Continue Rifaximin, continue lactulose at decreased dose, as pt with
   volumous stool
   - f/u Hepatology recs
   .
   #. Acute Renal Failure: Cr elevated to 2.0 from 0.9 baseline and
   trending upwards.  Hepatorenal vs. pre-renal vs. ATN while
   hypotensive.  Was treated with 3 day course of Octreotide, Midodrine,
   Albumin for hepatorenal syndrome treatment.
   - HD planned for Monday
   - Daily LFTs, albumin, coags per liver
   - Discontinued octreotide and midodrine per liver
   - Renal to correct lytes with HD; f/u renal recs
   .
   # Anemia & Thrombocytopenia: Hematocrit stable
 no obvious source of
   bleeding. Question underproduction rather than bleeding. s/p last
   transfusion on [**11-2**].  Hematocrit decreased [**11-6**] in setting of elevated
   INR from liver failure.  R Femoral line also with slow bleeding.
   - Discussed removal of femoral line following dialysis with Renal who
   does not want to touch line until platelets and INR are normalized.
   - maintain active T+S
   - FFP and platelets to be given tomorrow ([**11-8**]) at dialysis
   - re-check peripheral smear
   - follow daily cbc, coags, fibrinogen
   .
   # Hypernatremia:  improved
   - Continue tube feeds and free water flushes, currently at 300 q4hrs.
   Decrease free water to 150cc q4h given resolution of hypernatremia.
   .
   # ESLD: Currently listed but inactive, MELDs rising.
   - f/u Hepatology recs
   - Lactulose/Rifaximin
   - Completed 3 day course of albumin; hold for now
   - Monitor daily LFT
 stable today
   - treatment for hepatorenal syndrome as above
   .
   # DM2: No longer on insulin drip; watch sugars today and then adjust
   glargine and SS as needed.  Hyperglycemia on D5W, switched to
 NS for
   better sugar control.
   -Adjust sliding scale as needed
   .
   # Hypercalcemia: Believed due to renal failure
   - to be taken into account during HD
   ..
   FEN: Tube feeds novasource renal , replete electrolytes
   Prophylaxis: Boots, Pantoprazole
   Access:  LIJ Triple lumen, art line, femoral line.
   Code:  Full (Confirmed)
   Communication: Patient Wife [**Name (NI) 1022**]
   [**Telephone/Fax (1) 8510**] ([**Name2 (NI) **])
   [**Telephone/Fax (1) 8511**] (cell)
   [**Telephone/Fax (1) 8512**] (son - [**Name (NI) **])
   Disposition: ICU
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2145-11-7**] 03:03 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2145-10-30**] 01:55 PM
   Multi Lumen - [**2145-10-30**] 01:56 PM
   Dialysis Catheter - [**2145-11-3**] 04:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-11-08 12:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2145-11-7**] 08:59 AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-11-7**] 10:15 PM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-11-7**] 03:59 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2145-11-8**] 12:30 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 74 (63 - 77) bpm
   BP: 113/49(67) {107/44(63) - 130/58(81)} mmHg
   RR: 9 (8 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.5 kg (admission): 86.8 kg
   Height: 70 Inch
             Total In:
                                                                  2,241 mL
                                                                  1,363 mL
   PO:
             TF:
                                                                    204 mL
                                                                    520 mL
   IVF:
                                                                    332 mL
                                                                    163 mL
   Blood products:
                                                                    625 mL
   Total out:
                                                                    819 mL
                                                                     20 mL
   Urine:
                                                                     19 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,422 mL
                                                                  1,343 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   22 K/uL
   189 mg/dL
   2.4 mg/dL
   21 mEq/L
   4.2 mEq/L
   64 mg/dL
   109 mEq/L
   140 mEq/L
   28.3 %
   10.9 K/uL
        [image002.jpg]
                             [**2145-11-4**]  03:33 PM
                             [**2145-11-4**]  07:18 PM
                             [**2145-11-4**]  07:52 PM
                             [**2145-11-5**]  03:11 AM
                             [**2145-11-5**]  03:25 AM
                             [**2145-11-6**]  01:04 AM
                             [**2145-11-6**]  07:50 AM
                             [**2145-11-7**]  12:26 AM
                             [**2145-11-7**]  03:00 PM
                             [**2145-11-8**]  02:07 AM
   WBC
   6.8
   7.2
   7.2
   8.4
   10.9
   Hct
   24.3
   22.3
   21.0
   27.9
   25.2
   28.3
   Plt
   25
   16
   16
   27
   22
   Cr
   1.8
   2.7
   2.2
   1.5
   2.4
   TropT
   0.54
   0.64
   0.71
   TCO2
   22
   20
   Glucose
   117
   205
   170
   130
   189
   Other labs: PT / PTT / INR:28.1/50.0/2.8, CK / CKMB /
   Troponin-T:27/5/0.71, ALT / AST:50/66, Alk Phos / T Bili:74/14.1,
   Fibrinogen:117 mg/dL, Lactic Acid:2.9 mmol/L, Albumin:3.5 g/dL, LDH:280
   IU/L, Ca++:9.6 mg/dL, Mg++:2.2 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FUNGAL INFECTION, OTHER
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPERGLYCEMIA
 HEPATORENAL SYNDROME
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 COAGULOPATHY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   57 year old gentleman with ESLD (on transplant list) admitted 59 days
   earlier for upper GI bleeding now re-readmitted to the ICU for
   hypothermia and hypotension and continuing encephalopathy
   Sepsis:  BP now stable.  Cont cipro SBP ppx.  Cont stress dose steroids
   until [**11-10**].
   Delirium/encephalopathy:  Cont lactulose/rifaxamin
   Renal failure:  HD today
   Anemia due to blood loss: Cont to monitor Hct.  Plts > 50, INR < 1.5
   EKG changes: Appreciate cardiology recs.
   Reaminder of issues per ICU team.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2145-11-7**] 03:03 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2145-10-30**] 01:55 PM
   Multi Lumen - [**2145-10-30**] 01:56 PM
   Dialysis Catheter - [**2145-11-3**] 04:20 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2145-11-09 06:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: hepatic encephalopathy, GI bleed, sepsis
   24 Hour Events:
   - Reverse coags with 2U FFP and 1U Plt.
   - f/u cardiology recs
   - DDAVP 20mg given
   - Liver recommended stopping octreotide once hct stable
   - Cardiology consulted, believe ST changes and CEs are result of
   sepsis, not ACS.  Also cannot medically manage due to liver failure.
   NTD.
   - HD today
   - IR to replace femoral temp HD catheter with IJ temp HD catheter today
   ([**11-9**]), per request from Renal.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-11-7**] 10:15 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-11-9**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.6
C (96.1
   HR: 74 (70 - 82) bpm
   BP: 106/44(63) {88/38(53) - 122/53(75)} mmHg
   RR: 15 (9 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.5 kg (admission): 86.8 kg
   Height: 70 Inch
             Total In:
                                                                  3,266 mL
                                                                    643 mL
   PO:
             TF:
                                                                  1,050 mL
                                                                    291 mL
   IVF:
                                                                    270 mL
                                                                     32 mL
   Blood products:
                                                                    776 mL
   Total out:
                                                                  1,025 mL
                                                                     20 mL
   Urine:
                                                                     25 mL
                                                                     20 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                  2,241 mL
                                                                    623 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   Gen: Alert but unresponsive
   CV: RRR, no murmurs
   PULM: Rales bilat bases
   ABD: +BS, distended, mildly tense abdomen, no rebound.
   EXTR: [**12-4**]+ pitting edema to thighs.
   SKIN: jaundiced throughout.
   Groin: Leaking femoral line; no erythema or pus at site.
   Labs / Radiology
   29 K/uL
   8.8 g/dL
   230 mg/dL
   1.8 mg/dL
   25 mEq/L
   3.6 mEq/L
   46 mg/dL
   106 mEq/L
   141 mEq/L
   25.8 %
   8.9 K/uL
        [image002.jpg]
                             [**2145-11-4**]  07:52 PM
                             [**2145-11-5**]  03:11 AM
                             [**2145-11-5**]  03:25 AM
                             [**2145-11-6**]  01:04 AM
                             [**2145-11-6**]  07:50 AM
                             [**2145-11-7**]  12:26 AM
                             [**2145-11-7**]  03:00 PM
                             [**2145-11-8**]  02:07 AM
                             [**2145-11-8**]  06:03 PM
                             [**2145-11-9**]  03:40 AM
   WBC
   6.8
   7.2
   7.2
   8.4
   10.9
   11.7
   8.9
   Hct
   24.3
   22.3
   21.0
   27.9
   25.2
   28.3
   26.0
   25.8
   Plt
   25
   16
   16
   27
   22
   37
   29
   Cr
   2.7
   2.2
   1.5
   2.4
   1.8
   TropT
   0.71
   TCO2
   22
   20
   Glucose
   [**Telephone/Fax (3) 9750**]89
   230
   Other labs: PT / PTT / INR:23.6/46.6/2.2, CK / CKMB /
   Troponin-T:27/5/0.71, ALT / AST:57/73, Alk Phos / T Bili:121/12.7,
   Fibrinogen:74 mg/dL, Lactic Acid:2.9 mmol/L, Albumin:3.5 g/dL, LDH:280
   IU/L, Ca++:9.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Radiology: No new imaging.
   CXR 12/5/09The NG tube tip is in the stomach. The right internal
   jugular line tip is at the level of the junction of the brachiocephalic
   vein and SVC. Extensive parenchymal opacities are bilateral and
   unchanged compared to the prior study. No change in the
   cardiomediastinal silhouette is demonstrated.
   Micro: No new micro.
   B cxr [**11-8**] pending.
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FUNGAL INFECTION, OTHER
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPERGLYCEMIA
 HEPATORENAL SYNDROME
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 COAGULOPATHY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   A 57 year old gentleman with ESLD (on transplant list) admitted 59 days
   earlier for upper GI bleeding now re-readmitted to the ICU for
   hypothermia and hypotension and continuing encephalopathy
   .
   #. Sepsis: The patient has hypotension, hypothermia and borderline
   leukopenia without an obvious current source of infection.  During this
   hospitalization he has had bacteremia, pneumonia and a urinary tract
   infection. Peritonitis is also another possible source. His baseline
   blood pressures are 90s systolic. Concern for under-repletion of
   steroids given weak [**Last Name (un) **] stim test, infection or worsening hypotension
   from liver disease.  Hypotension could also be from cardiogenic source,
   but cardiac enzymes stable, no longer trending.  Completed 7 day course
   of Dapto/Cipro/Cefepime for broad coverage empiric treatment.  Off
   vasopressin and achieving goal MAP >60.  Continued Cipro 250mg [**Hospital1 **]
   prophylactic dose for prior history of SBP.
   - Micagfungin recommended by hepatology.  5/5 doses given.  Due to low
   suspicion for fungal infection, stopped medication at presumed 5
   doses.
   - Continue Cipro at 250mg PO daily for prophylaxis for history of SBP
   in the past.
   - Continue on current stress-dose steroid dose until [**11-10**] and then
   decrease by
 and continue to wean by
 q 3 days.
   - continue to f/u pending cultures and culture as needed for fevers and
   CV decompensation
   - Warming with Bair Hugger as needed
   - Hold nadolol
   - On octreotide drip for GI bleed; Liver recommends continuing
   octreotide drip until HCT stable.
   .
   # ST Depressions:  Concerning for lateral ischemia, rising troponins in
   the setting of renal failure.  Currently  not on ACS medications,
   patient unable to communicate chest pain but HR in 60
s, SBP 110
   - Likely stable demand ischemia in the setting of low Hct/sepsis.
   - Transfuse to maintain goal Hct 28-30.
   - Repeat EKG daily to ensure patient is not evolving; Troponins
   unreliable in setting of renal failure.
   - cardiology believes ST changes and CEs are result of sepsis, not
   ACS.  Also cannot medically manage due to liver failure. Nothing to do.
   .
   #. Altered Mental Status: Encephalopathy, waxing and [**Doctor Last Name 282**] with other
   clinical parameters.
   - Continue Rifaximin, continue lactulose at decreased dose, as pt with
   volumous stool
   - f/u Hepatology recs
   .
   #. Acute Renal Failure: Cr elevated to 2.0 from 0.9 baseline and
   trending upwards.  Hepatorenal vs. pre-renal vs. ATN while
   hypotensive.  Was treated with 3 day course of Octreotide, Midodrine,
   Albumin for hepatorenal syndrome treatment.
   - HD per renal, pt was dialyzed yesterday
   - Daily LFTs, albumin, coags per liver
   - Renal to correct lytes with HD; f/u renal recs
   .
   # Anemia & Thrombocytopenia: Hematocrit stable
 no obvious source of
   bleeding. Question underproduction rather than bleeding. s/p last
   transfusion on [**11-2**].  Hematocrit decreased [**11-6**] in setting of elevated
   INR from liver failure.  R Femoral line also with slow bleeding.
   - Plan for IR to replace fem HD line with IJ HD line today.
   - maintain active T+S
   - follow daily cbc, coags, fibrinogen
   - Attempted to correct coags with 2 U FFP and 1 U Plt yesterday.
   .
   # Hypernatremia:  improved
   - Continue tube feeds and free water flushes, currently at 300 q4hrs.
   Decrease free water to 150cc q4h given resolution of hypernatremia.
   - DDAVP started.
   .
   # ESLD: Currently listed for liver transplant, MELDs rising.
   - f/u Hepatology recs
   - Continue. Lactulose/Rifaximin
   - Completed 3 day course of albumin; hold for now
   - Monitor daily LFT
 stable today
   - treatment for hepatorenal syndrome as above
   .
   # DM2: No longer on insulin drip; watch sugars today and then adjust
   glargine and SS as needed.  Hyperglycemia on D5W, switched to
 NS for
   better sugar control.
   -Adjust sliding scale as needed
   .
   # Hypercalcemia: Believed due to renal failure
   - to be taken into account during HD
   ..
   FEN: Tube feeds novasource renal , replete electrolytes
   Prophylaxis: Boots, Pantoprazole
   Access:  LIJ Triple lumen, art line, femoral line.
   Code:  Full (Confirmed)
   Communication: Patient Wife [**Name (NI) 1022**]
   [**Telephone/Fax (1) 8510**] ([**Name2 (NI) **])
   [**Telephone/Fax (1) 8511**] (cell)
   [**Telephone/Fax (1) 8512**] (son - [**Name (NI) **])
   Disposition: ICU

2145-11-10 07:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2145-11-9**] 04:09 PM
   - L IJ placed
 DIALYSIS CATHETER - STOP [**2145-11-9**] 07:00 PM
   - femoral line pulled
   - renal: HD on [**11-10**], resume midodrine (didn't do this, wasn't sure the
   dose?)
   - 5pm cbc/coags resulted in 1 unit of platelets being given
   - hepatology: continue to keep patient in ICU
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-11-9**] 10:30 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-11-10**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-11-10**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.8
C (96.5
   HR: 78 (66 - 85) bpm
   BP: 113/51(68) {99/42(57) - 127/57(76)} mmHg
   RR: 12 (8 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.5 kg (admission): 86.8 kg
   Height: 70 Inch
             Total In:
                                                                  3,366 mL
                                                                    847 mL
   PO:
             TF:
                                                                    810 mL
                                                                    321 mL
   IVF:
                                                                    155 mL
                                                                     46 mL
   Blood products:
                                                                  1,246 mL
   Total out:
                                                                  1,238 mL
                                                                    710 mL
   Urine:
                                                                     38 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,128 mL
                                                                    137 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: Gen: Alert, tracks to name
   CV: RRR, + murmur RUSB
   PULM: Rales bilat bases
   ABD: +BS, distended, mildly tense abdomen, no rebound.
   EXTR: [**12-4**]+ pitting edema to thighs.
   SKIN: jaundiced throughout.
   Groin: Leaking femoral line; no erythema or pus at site.  Clean
   dressing.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   57 K/uL
   8.2 g/dL
   178 mg/dL
   2.8 mg/dL
   25 mEq/L
   3.6 mEq/L
   59 mg/dL
   107 mEq/L
   143 mEq/L
   23.5 %
   9.1 K/uL
        [image002.jpg]
                             [**2145-11-5**]  03:25 AM
                             [**2145-11-6**]  01:04 AM
                             [**2145-11-6**]  07:50 AM
                             [**2145-11-7**]  12:26 AM
                             [**2145-11-7**]  03:00 PM
                             [**2145-11-8**]  02:07 AM
                             [**2145-11-8**]  06:03 PM
                             [**2145-11-9**]  03:40 AM
                             [**2145-11-9**]  05:30 PM
                             [**2145-11-10**]  02:10 AM
   WBC
   7.2
   7.2
   8.4
   10.9
   11.7
   8.9
   7.4
   9.1
   Hct
   22.3
   21.0
   27.9
   25.2
   28.3
   26.0
   25.8
   24.0
   23.5
   Plt
   16
   16
   27
   22
   37
   29
   39
   57
   Cr
   2.2
   1.5
   2.4
   1.8
   2.8
   TCO2
   20
   Glucose
   170
   130
   189
   230
   178
   Other labs: PT / PTT / INR:21.6/43.8/2.0, CK / CKMB /
   Troponin-T:27/5/0.71, ALT / AST:61/78, Alk Phos / T Bili:128/12.1,
   Differential-Neuts:88.1 %, Lymph:5.5 %, Mono:3.3 %, Eos:2.8 %,
   Fibrinogen:119 mg/dL, Lactic Acid:2.9 mmol/L, Albumin:3.6 g/dL, LDH:299
   IU/L, Ca++:9.8 mg/dL, Mg++:2.2 mg/dL, PO4:4.9 mg/dL
   Microbiology: [**11-8**] bcx ntd
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FUNGAL INFECTION, OTHER
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPERGLYCEMIA
 HEPATORENAL SYNDROME
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 COAGULOPATHY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   A 57 year old gentleman with ESLD (on transplant list) admitted 69 days
   earlier for upper GI bleeding now re-readmitted to the ICU for
   hypothermia and hypotension and continuing encephalopathy
   .
   #. Sepsis: The patient has hypotension, hypothermia and borderline
   leukopenia without an obvious current source of infection.  During this
   hospitalization he has had bacteremia, pneumonia and a urinary tract
   infection. Peritonitis is also another possible source. His baseline
   blood pressures are 90s systolic. Concern for under-repletion of
   steroids given weak [**Last Name (un) **] stim test, infection or worsening hypotension
   from liver disease.  Hypotension could also be from cardiogenic source,
   but cardiac enzymes stable, no longer trending.  Completed 7 day course
   of Dapto/Cipro/Cefepime for broad coverage empiric treatment.  Off
   vasopressin and achieving goal MAP >60.  Continued Cipro 250mg [**Hospital1 **]
   prophylactic dose for prior history of SBP.  Micagfungin recommended by
   hepatology.  5/5 doses given.  Due to low suspicion for fungal
   infection, stopped medication at presumed 5 doses.
   - Continue Cipro at 250mg PO daily for prophylaxis for history of SBP
   in the past.
   - Wean stress-dose steroid by half dose to 12.5mg daily;  Continue on
   current stress-dose steroid dose until [**11-13**] and then decrease by
 and
   continue to wean by
 q 3 days.
   - continue to f/u pending cultures and culture as needed for fevers and
   CV decompensation
   - Warming with Bair Hugger as needed
   - Hold nadolol
   .
   #. Acute Renal Failure: Cr elevated to 2.0 from 0.9 baseline and
   trending upwards.  Hepatorenal vs. pre-renal vs. ATN while
   hypotensive.  Was treated with 3 day course of Octreotide, Midodrine,
   Albumin for hepatorenal syndrome treatment.
   - HD per renal
   - Daily LFTs, albumin, coags per liver
   - Renal to correct lytes with HD; f/u renal recs
   .
   #. Altered Mental Status: Encephalopathy, waxing and [**Doctor Last Name 282**] with other
   clinical parameters.
   - Continue Rifaximin, continue lactulose at decreased dose, as pt with
   volumous stool
   - f/u Hepatology recs
   .
   # Anemia & Thrombocytopenia: Hematocrit stable
 no obvious source of
   bleeding. Question underproduction rather than bleeding. s/p last
   transfusion on [**11-2**].  Hematocrit decreased [**11-6**] in setting of elevated
   INR from liver failure.  R Femoral line also with slow bleeding.
   - Plan for IR to replace fem HD line with IJ HD line today.   Will need
   correction of coags with goal of INR < 2 and Plt > 50. Recheck coags,
   CBC after line replaced.
   - maintain active T+S
   - follow daily cbc, coags, fibrinogen
   .
   # ST Depressions:  Concerning for lateral ischemia, rising troponins in
   the setting of renal failure.  Currently not on ACS medications,
   patient unable to communicate chest pain but HR in 60
s, SBP 110
   Likely stable demand ischemia in the setting of low Hct/sepsis.
   Cardiology believes ST changes and CEs are result of sepsis, not ACS.
   Also cannot medically manage due to liver failure. Nothing to do.
   - Transfuse to maintain goal Hct 28-30.
   .
   # Hypernatremia:  improved
   - Continue tube feeds and free water flushes, currently at 300 q4hrs.
   Decrease free water to 150cc q4h given resolution of hypernatremia.
   - DDAVP started.
   .
   # ESLD: Currently listed for liver transplant, MELDs rising.
   - f/u Hepatology recs
   - Continue. Lactulose/Rifaximin
   - Completed 3 day course of albumin; hold for now
   - Monitor daily LFT
 stable today
   - treatment for hepatorenal syndrome as above
   .
   # DM2: No longer on insulin drip; watch sugars today and then adjust
   glargine and SS as needed.  Hyperglycemia on D5W, switched to
 NS for
   better sugar control.
   -Adjust sliding scale as needed
   .
   # Hypercalcemia: Believed due to renal failure
   - to be taken into account during HD
   ..
   FEN: Tube feeds novasource renal , replete electrolytes
   Prophylaxis: Boots, Pantoprazole
   Access:  LIJ Triple lumen, art line, femoral line.
   Code:  Full (Confirmed)
   Communication: Patient Wife [**Name (NI) 1022**]
   [**Telephone/Fax (1) 8510**] ([**Name2 (NI) **])
   [**Telephone/Fax (1) 8511**] (cell)
   [**Telephone/Fax (1) 8512**] (son - [**Name (NI) **])
   Disposition: ICU
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2145-11-9**] 04:00 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2145-10-30**] 01:55 PM
   Multi Lumen - [**2145-10-30**] 01:56 PM
   Dialysis Catheter - [**2145-11-9**] 04:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-11-10 12:46:00 Physician Attending Progress Note
Chief Complaint: Hepatic encephalopathy
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   On HD this AM
   New HD catherter placed by IR yesterday
   24 Hour Events:
 DIALYSIS CATHETER - START [**2145-11-9**] 04:09 PM
 DIALYSIS CATHETER - STOP [**2145-11-9**] 07:00 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-11-9**] 10:30 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-11-10**] 04:30 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Genitourinary: Dialysis
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2145-11-10**] 12:46 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 76 (67 - 86) bpm
   BP: 119/53(74) {99/42(58) - 127/57(76)} mmHg
   RR: 12 (8 - 15) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.5 kg (admission): 86.8 kg
   Height: 70 Inch
             Total In:
                                                                  3,366 mL
                                                                  1,279 mL
   PO:
             TF:
                                                                    810 mL
                                                                    566 mL
   IVF:
                                                                    155 mL
                                                                     73 mL
   Blood products:
                                                                  1,246 mL
   Total out:
                                                                  1,238 mL
                                                                    710 mL
   Urine:
                                                                     38 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,128 mL
                                                                    569 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   57 K/uL
   178 mg/dL
   2.8 mg/dL
   25 mEq/L
   3.6 mEq/L
   59 mg/dL
   107 mEq/L
   143 mEq/L
   23.5 %
   9.1 K/uL
        [image002.jpg]
                             [**2145-11-5**]  03:25 AM
                             [**2145-11-6**]  01:04 AM
                             [**2145-11-6**]  07:50 AM
                             [**2145-11-7**]  12:26 AM
                             [**2145-11-7**]  03:00 PM
                             [**2145-11-8**]  02:07 AM
                             [**2145-11-8**]  06:03 PM
                             [**2145-11-9**]  03:40 AM
                             [**2145-11-9**]  05:30 PM
                             [**2145-11-10**]  02:10 AM
   WBC
   7.2
   7.2
   8.4
   10.9
   11.7
   8.9
   7.4
   9.1
   Hct
   22.3
   21.0
   27.9
   25.2
   28.3
   26.0
   25.8
   24.0
   23.5
   Plt
   16
   16
   27
   22
   37
   29
   39
   57
   Cr
   2.2
   1.5
   2.4
   1.8
   2.8
   TCO2
   20
   Glucose
   170
   130
   189
   230
   178
   Other labs: PT / PTT / INR:21.6/43.8/2.0, CK / CKMB /
   Troponin-T:27/5/0.71, ALT / AST:61/78, Alk Phos / T Bili:128/12.1,
   Differential-Neuts:88.1 %, Lymph:5.5 %, Mono:3.3 %, Eos:2.8 %,
   Fibrinogen:119 mg/dL, Lactic Acid:2.9 mmol/L, Albumin:3.6 g/dL, LDH:299
   IU/L, Ca++:9.8 mg/dL, Mg++:2.2 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FUNGAL INFECTION, OTHER
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPERGLYCEMIA
 HEPATORENAL SYNDROME
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 COAGULOPATHY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   57 year old gentleman with ESLD (on transplant list) for upper GI
   bleeding now re-readmitted to the ICU for hypothermia and hypotension
   and continuing encephalopathy.  Remains encephalopathic but
   hemodynamics/septic shock are now improved
   Sepsis:  Resolved.  Cont cipro SBP ppx.  stress dose steroids until
   [**11-10**].
   Delirium/encephalopathy:  Cont lactulose/rifaxamin
   Renal failure:  Getting HD today
   Anemia due to blood loss: Hct somewhat labile but overall stable - cont
   to trend
   Reaminder of issues per ICU team.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2145-11-9**] 04:00 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2145-10-30**] 01:55 PM
   Multi Lumen - [**2145-10-30**] 01:56 PM
   Dialysis Catheter - [**2145-11-9**] 04:09 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:

2145-11-11 08:26:00 Physician Attending Progress Note
Chief Complaint: Hepatic encephalopathy
   HPI:
   No events overnight.  HD yesterday.  Going to floor this AM.
   R LENIS did not show clot
   24 Hour Events:
 ARTERIAL LINE - STOP [**2145-11-10**] 04:02 PM
 ULTRASOUND - At [**2145-11-10**] 04:30 PM
   LENI'S
 CALLED OUT
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-11-9**] 10:30 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2145-11-11**] 08:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.7
C (96.2
   HR: 71 (65 - 83) bpm
   BP: 103/79(84) {87/54(56) - 120/79(84)} mmHg
   RR: 12 (7 - 17) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 87.5 kg (admission): 86.8 kg
   Height: 70 Inch
             Total In:
                                                                  2,481 mL
                                                                    814 mL
   PO:
             TF:
                                                                  1,091 mL
                                                                    373 mL
   IVF:
                                                                    130 mL
                                                                     41 mL
   Blood products:
   Total out:
                                                                  3,472 mL
                                                                      0 mL
   Urine:
                                                                     22 mL
   NG:
   Stool:
                                                                    750 mL
   Drains:
   Balance:
                                                                   -991 mL
                                                                    814 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, tracking but
   otherwise interactive
   Labs / Radiology
   8.5 g/dL
   46 K/uL
   173 mg/dL
   2.3 mg/dL
   28 mEq/L
   3.6 mEq/L
   34 mg/dL
   107 mEq/L
   142 mEq/L
   26.2 %
   9.1 K/uL
        [image002.jpg]
                             [**2145-11-6**]  07:50 AM
                             [**2145-11-7**]  12:26 AM
                             [**2145-11-7**]  03:00 PM
                             [**2145-11-8**]  02:07 AM
                             [**2145-11-8**]  06:03 PM
                             [**2145-11-9**]  03:40 AM
                             [**2145-11-9**]  05:30 PM
                             [**2145-11-10**]  02:10 AM
                             [**2145-11-10**]  03:23 PM
                            [**2145-11-11**]  03:27 AM
   WBC
   7.2
   8.4
   10.9
   11.7
   8.9
   7.4
   9.1
   9.1
   9.1
   Hct
   21.0
   27.9
   25.2
   28.3
   26.0
   25.8
   24.0
   23.5
   23.5
   26.2
   Plt
   16
   27
   22
   37
   29
   39
   57
    57
   46
   Cr
   1.5
   2.4
   1.8
   2.8
   2.3
   Glucose
   130
   189
   230
   178
   173
   Other labs: PT / PTT / INR:26.6/56.5/2.6, CK / CKMB /
   Troponin-T:27/5/0.71, ALT / AST:68/84, Alk Phos / T Bili:145/12.6,
   Differential-Neuts:88.1 %, Lymph:5.5 %, Mono:3.3 %, Eos:2.8 %,
   Fibrinogen:81 mg/dL, Lactic Acid:2.9 mmol/L, Albumin:3.6 g/dL, LDH:314
   IU/L, Ca++:9.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FUNGAL INFECTION, OTHER
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPERGLYCEMIA
 HEPATORENAL SYNDROME
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 COAGULOPATHY
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   57 year old gentleman with ESLD (on transplant list) for upper GI
   bleeding now re-readmitted to the ICU for hypothermia and hypotension
   and continuing encephalopathy.  Remains encephalopathic but
   hemodynamics/septic shock are now improved.
   Delirium/encephalopathy:  Cont lactulose/rifaxamin.  Cipro SBP ppx.
   Renal failure:  HD per renal
   Anemia due to blood loss: Hct stable
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2145-11-10**] 01:51 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2145-10-30**] 01:56 PM
   Dialysis Catheter - [**2145-11-9**] 04:09 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: